2129-01-23 03:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Cefipime - [**2129-1-22**] 06:30 PM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Diazepam (Valium) - [**2129-1-22**] 10:44 AM
   Midazolam (Versed) - [**2129-1-22**] 09:40 PM
   Fentanyl - [**2129-1-22**] 09:45 PM
   Propofol - [**2129-1-22**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-23**] 03:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.5
C (101.3
   HR: 68 (68 - 114) bpm
   BP: 120/61(80) {78/44(54) - 239/106(148)} mmHg
   RR: 20 (13 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,507 mL
                                                                    269 mL
   PO:
             TF:
                                                                    110 mL
                                                                     37 mL
   IVF:
                                                                  3,197 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                     60 mL
   Urine:
                                                                    850 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,657 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 58.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.33/50/85.[**Numeric Identifier 126**]/26/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 85
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   263 K/uL
   9.9 g/dL
   117 mg/dL
   1.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   18 mg/dL
   103 mEq/L
   141 mEq/L
   29.6 %
   13.3 K/uL
        [image002.jpg]
                             [**2129-1-22**]  10:39 AM
                             [**2129-1-22**]  12:14 PM
                             [**2129-1-22**]  12:32 PM
                             [**2129-1-22**]  03:52 PM
                             [**2129-1-22**]  05:25 PM
                             [**2129-1-22**]  06:30 PM
                             [**2129-1-22**]  11:14 PM
                             [**2129-1-23**]  02:10 AM
                             [**2129-1-23**]  02:32 AM
   WBC
   12.0
   11.0
   13.3
   Hct
   31.1
   31.2
   29.6
   Plt
   [**Telephone/Fax (3) 12803**]
   Cr
   1.4
   1.9
   TCO2
   33
   31
   33
   34
   30
   28
   Glucose
   96
   117
   Other labs: PT / PTT / INR:14.1/25.6/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-1-22**] 01:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-1-22**] 10:03 AM
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-01-23 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2129-1-22**] 10:13 AM
 INVASIVE VENTILATION - START [**2129-1-22**] 11:20 AM
 SPUTUM CULTURE - At [**2129-1-22**] 11:54 AM
 BLOOD CULTURED - At [**2129-1-22**] 12:00 PM aline
 NASAL SWAB - At [**2129-1-22**] 12:02 PM nasopharyngeal
 ARTERIAL LINE - START [**2129-1-22**] 12:10 PM
 TRANSTHORACIC ECHO - At [**2129-1-22**] 12:58 PM
 MULTI LUMEN - START [**2129-1-22**] 03:00 PM
 BLOOD CULTURED - At [**2129-1-22**] 05:24 PM cvl
 FEVER - 102.1
F - [**2129-1-22**] 06:00 PM
   - Patient intubated in AM for desaturation and tachypnea.
   - RIJ inserted and CXR confirmed placement.
   - Started Cefepime, Flagyl for treatment of aspiration pneumonia.
   - Echo: LVEF > 65%; consistent with Grade II (moderate) left
   ventricular diastolic dysfunction.
   - Neurosurgery recommended to continue treatment for INR, return to
   Coumadin in 1 month, and to continue IVF to treat recent dye load.
   - Had episode of tachypnea, desturation to the 80s, and ventilator
   dyssynchrony during the late evening. Treated with increased Versed,
   Fentanyl and then added Propofol. Started low dose Levophed as
   pressures started to come down.
   - PaO2 85 on FiO2 of 100%. Increased PEEP in morning and will continue
   to follow.
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Cefipime - [**2129-1-22**] 08:00 PM
   Metronidazole - [**2129-1-23**] 04:00 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2129-1-22**] 10:44 AM
   Midazolam (Versed) - [**2129-1-22**] 09:40 PM
   Fentanyl - [**2129-1-22**] 09:45 PM
   Propofol - [**2129-1-22**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-23**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.9
C (100.3
   HR: 64 (64 - 114) bpm
   BP: 137/69(92) {78/44(54) - 239/106(148)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,607 mL
                                                                    713 mL
   PO:
             TF:
                                                                    110 mL
                                                                     70 mL
   IVF:
                                                                  3,297 mL
                                                                    644 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    165 mL
   Urine:
                                                                    850 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,757 mL
                                                                    550 mL
   Respiratory support
 updated ventilation and ABG reviewed by the time
   of rounds.
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 57.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.33/50/85 /26/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 85
   Physical Examination
   General: Intubated, sedated;
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Coarse lung sounds bilaterally
   CV: RRR, no murmurs
   Abdomen: Non-tender, distended, no rebound, no guarding, bowel sounds
   present
   Ext: Warm, well perfused, 2+ pulses, mild edema
   Labs / Radiology
   263 K/uL
   9.9 g/dL
   117 mg/dL
   1.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   18 mg/dL
   103 mEq/L
   141 mEq/L
   29.6 %
   13.3 K/uL
        [image002.jpg]
                             [**2129-1-22**]  10:39 AM
                             [**2129-1-22**]  12:14 PM
                             [**2129-1-22**]  12:32 PM
                             [**2129-1-22**]  03:52 PM
                             [**2129-1-22**]  05:25 PM
                             [**2129-1-22**]  06:30 PM
                             [**2129-1-22**]  11:14 PM
                             [**2129-1-23**]  02:10 AM
                             [**2129-1-23**]  02:32 AM
   WBC
   12.0
   11.0
   13.3
   Hct
   31.1
   31.2
   29.6
   Plt
   [**Telephone/Fax (3) 12803**]
   Cr
   1.4
   1.9
   TCO2
   33
   31
   33
   34
   30
   28
   Glucose
   96
   117
   Other labs: PT / PTT / INR:14.1/25.6/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   [**2129-1-22**] CXR PORT LINE PLACEMENT
 FINAL READ PENDING
   [**2129-1-22**] KUB
 FINAL READ PENDING
   [**2129-1-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2129-1-22**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-PRELIMINARY; Respiratory Viral Antigen Screen-FINAL
   Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2129-1-22**]):
         Negative for Respiratory Viral Antigen.
         Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A,
   B,
         and RSV by immunofluorescence.
         Refer to respiratory viral culture for further information.
   [**2129-1-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2129-1-22**]  MRSA SCREEN MRSA SCREEN-PENDING
   [**2129-1-22**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
      GRAM STAIN (Final [**2129-1-22**]):
         [**10-24**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
   [**2129-1-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2129-1-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
   68 yo M with DM, EtOH abuse, s/p a recent a. fib ablation admitted for
   ICH and found to have aspiration pneumonitis/pneumonia and EtOH
   withdrawal.
   .
   # Respiratory failure/hypoxia: Likely related to an aspiration event in
   the setting of alcohol withdrawal. Other potential etiologies include
   CAP, influenza pneumonia or ARDS. Has known OSA and has refused CPAP in
   the past. Has moderate left ventricular diastolic dysfunction, question
   if also contributing to respiratory failure. He continues to exhibit
   ARDS like physiology at this time. [**Month (only) 51**] have flashed prior to transfer
   to MICU.
   - Cefepime x 7 days ([**Date range (1) 12808**]), Flagyl x 7 days ([**Date range (1) 12809**]),
   Levofloxacin x 7 days ([**Date range (1) 12809**]) for aspiration pneumonia/cover for
   CAP
   - ARDSnet protocol ventilation for ARDS
   - Wean vent and sedation as tolerated; continue on Propofol and
   intermittent with Valium prn CIWA
   - Trend CXR
   - Albuterol, ipratropium nebs
   .
   # Labile BP. Initial hypotension in the setting of intubation and
   alcohol withdrawal. [**Month (only) 51**] also be secondary to PEEP in ARDS ventilation.
   Patient also received all of his medications for BP on floor. Less
   likely related to sepsis given clinical presentation. Hypertensive
   episodes throughout the day [**1-22**]. Likely related with withdrawal as
   below.
   - Goal SBP 120-160
   - Start short-acting antihypertensives, IV labetalol
   - Wean vent and sedation as tolerated; continue on Propofol and
   intermittent with Valium prn CIWA
   .
   # Alcohol withdrawal: Had episode of tremors, agitation, hypertension,
   low-grade fever and tachycardia during the [**1-22**] late evening and also
   [**1-22**] early morning prior to transfer to MICU.
   - Wean vent and sedation as tolerated; continue on Propofol and
   intermittent with Valium prn CIWA
   - Follow up social work consult recommendations; appreciate their input
   .
   # Fever: Etiology likely multifactorial, related with alcohol
   withdrawal, ICH, ARDS. [**Month (only) 51**] also be related with aspiration pneumonitis.
   Unlikely sepsis given clinical picture.
   - Trend fever
   - Follow cultures
   .
   # ICH: Stable. Neurosurgery is following.
   - Continue to follow neurosurgery recommendations; appreciate their
   input
   - Defer head CT at this time and re-assess neuro exam once weaned off
   sedation
   - Hold Coumadin x 1 month
   - Trend INR goal 1.5; consider additional FFP for neurologic decline or
   bleeding
   .
   # L Non-displaced temporal bone fracture: ENT has signed off.
   - Ciprodex otic 5 gtts TID both ears x10 days
   - Dexamethasone 5 gtts TID left ear x 10 days
   - Audiogram in 1 week; can be done as outpatient
   - Dry ear precautions AS
   - Follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 732**], ORL attending in [**1-1**] weeks
   .
   # Diabetes:
   - Hold home glipizide for now
   - ISS goal FS 100-130
   .
   # Elevated INR: No obvious signs of synthetic dysfunction, so likely
   due to warfarin and poor nutrition.
   - Trend INR
   - Trend ALT/AST, AP, TBili for possible alcoholic hepatitis
   .
   # Acute Kidney Insufficiency: Cr currently elevated. Likely in the
   setting of pre-renal hypotension. Question response to CTA dye load
   although s/p NAC as appropriate.
   - Trend Cr
   - IVF
   - Trend UOP
   .
   # TnT Elevation: Likely due to recent ablation. Have trended down. ECG
   unchanged. No acute interventions.
   - Obtain EKG as patient on Sotalol with [**Last Name (un) **].
   .
   # FEN: No IVF, replete electrolytes on scales, diabetic cardiac diet
   # Prophylaxis: INR therapeutic, bowel regimen, PPI
   # Access: Peripherals
   # Communication: Patient and daughter
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-1-22**] 01:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-1-22**] 10:03 AM
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-01-23 11:06:00 Physician Attending Progress Note
Chief Complaint: 68 year man s/p PAF ablation with head
   trauma/DT's/Aspiration PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2129-1-22**] 10:13 AM
 INVASIVE VENTILATION - START [**2129-1-22**] 11:20 AM
 SPUTUM CULTURE - At [**2129-1-22**] 11:54 AM
 BLOOD CULTURED - At [**2129-1-22**] 12:00 PM
   aline
 NASAL SWAB - At [**2129-1-22**] 12:02 PM
   nasopharyngeal
 ARTERIAL LINE - START [**2129-1-22**] 12:10 PM
 TRANSTHORACIC ECHO - At [**2129-1-22**] 12:58 PM
 MULTI LUMEN - START [**2129-1-22**] 03:00 PM
 BLOOD CULTURED - At [**2129-1-22**] 05:24 PM
   cvl
 FEVER - 102.1
F - [**2129-1-22**] 06:00 PM
   Deasat to 80's, ventilatory asynchrony - improved with Propafol
   Became hypotensive - started levophed - now weaning
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-23**] 04:00 AM
   Cefipime - [**2129-1-23**] 10:13 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2129-1-22**] 09:40 PM
   Fentanyl - [**2129-1-22**] 09:45 PM
   Propofol - [**2129-1-22**] 09:45 PM
   Other medications:
   dexameth otic, sotalol, levoflox, cipro otic, docusate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-23**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.3
C (99.2
   HR: 75 (63 - 114) bpm
   BP: 131/79(91) {79/46(54) - 198/108(130)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,586 mL
                                                                  1,037 mL
   PO:
             TF:
                                                                     88 mL
   IVF:
                                                                  3,297 mL
                                                                    907 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    288 mL
   Urine:
                                                                    850 mL
                                                                    288 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,736 mL
                                                                    749 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 38.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/40/92.[**Numeric Identifier 132**]/26/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 116
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   263 K/uL
   117 mg/dL
   1.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   18 mg/dL
   103 mEq/L
   141 mEq/L
   29.6 %
   13.3 K/uL
        [image002.jpg]
                             [**2129-1-22**]  10:39 AM
                             [**2129-1-22**]  12:14 PM
                             [**2129-1-22**]  12:32 PM
                             [**2129-1-22**]  03:52 PM
                             [**2129-1-22**]  05:25 PM
                             [**2129-1-22**]  06:30 PM
                             [**2129-1-22**]  11:14 PM
                             [**2129-1-23**]  02:10 AM
                             [**2129-1-23**]  02:32 AM
                             [**2129-1-23**]  08:41 AM
   WBC
   12.0
   11.0
   13.3
   Hct
   31.1
   31.2
   29.6
   Plt
   [**Telephone/Fax (3) 12803**]
   Cr
   1.4
   1.9
   TCO2
   33
   31
   33
   34
   30
   28
   25
   Glucose
   96
   117
   Other labs: PT / PTT / INR:14.1/25.6/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Microbiology: No new culture results
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
    Intracranial hemorrhage
      Stable neuro findings/reverse coags with Vit K
      Neuro [**Doctor First Name 213**] following with us
      Head CT today if not moving all extremities
   2 Resp Failure - Asp pneumonia -need to cover both inand out patient
   PNA given his recent hospit for ablation
                             Levol/Zosyn /Flagyl
                             Vent with ARDS net style parameters
    3. DT's - Valium 10mg on CIWA protocol
   4. DM - RISS, hold oral meds
   5. Mild renal insufficiency - trending down with fluids
   6. Trop elevation - no evidence NSTEMI
   7. HBP - IV Lopressor, consider adding Hydal and/or Captopril if unable
   to control. On complicated antihypertensive regimen at home
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2129-1-22**] 10:03 AM
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-01-24 07:55:00 Physician Resident Progress Note
Chief Complaint: Fall while intoxicated after ablation procedure,
   bleeding from ear.
   24 Hour Events:
 EKG - At [**2129-1-23**] 11:19 AM
 EKG - At [**2129-1-23**] 10:27 PM
 EKG - At [**2129-1-24**] 06:19 AM
 FEVER - 101.9
F - [**2129-1-23**] 12:00 PM
   - Moving all extremities
   - CT Head: New areas of hypodensity inferior frontal lobes: concerning
   for infarct vs edema. No mass effect at all.
   - Now withdrawing - diaphoresis, hypertension, tachycardia
   - Changed valium to q1h 10 mg IV for above.
   - Hypertensive to 180s, tachycardic to 120s, with atrial tachycardia.
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Cefipime - [**2129-1-23**] 08:00 PM
   Metronidazole - [**2129-1-23**] 09:00 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Labetalol - [**2129-1-23**] 11:18 AM
   Diazepam (Valium) - [**2129-1-24**] 06:33 AM
   Metoprolol - [**2129-1-24**] 06:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-24**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.7
C (99.8
   HR: 118 (63 - 120) bpm
   BP: 154/88(109) {77/45(54) - 194/95(130)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  2,016 mL
                                                                    722 mL
   PO:
             TF:
                                                                    267 mL
                                                                    267 mL
   IVF:
                                                                  1,559 mL
                                                                    456 mL
   Blood products:
   Total out:
                                                                  1,023 mL
                                                                    440 mL
   Urine:
                                                                  1,023 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    993 mL
                                                                    282 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   Compliance: 57 cmH2O/mL
   SpO2: 97%
   ABG: 7.43/42/149/26/3
   Ve: 9.7 L/min
   PaO2 / FiO2: 373
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   9.3 g/dL
   136 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   20 mg/dL
   107 mEq/L
   142 mEq/L
   28.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2129-1-22**]  11:14 PM
                             [**2129-1-23**]  02:10 AM
                             [**2129-1-23**]  02:32 AM
                             [**2129-1-23**]  08:41 AM
                             [**2129-1-23**]  01:25 PM
                             [**2129-1-23**]  01:35 PM
                             [**2129-1-23**]  06:00 PM
                             [**2129-1-24**]  02:33 AM
                             [**2129-1-24**]  03:23 AM
                             [**2129-1-24**]  03:44 AM
   WBC
   13.3
   7.5
   Hct
   29.6
   28.3
   Plt
   263
   172
   Cr
   1.9
   1.8
   1.4
   TCO2
   30
   28
   25
   25
   27
   29
   29
   Glucose
   117
   146
   136
   Other labs: PT / PTT / INR:13.6/25.0/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: Edema of orbitofrontal cortex overlying previous SDH.
   Microbiology: Viral swab negative with preliminary culture.
   Blood cultures pending with no growth yet.
   ECG: Has been in AF overnight. Rates to 120s.
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   68 yo M with DM, EtOH abuse, s/p a recent a. fib ablation admitted for
   ICH and found to have aspiration pneumonitis/pneumonia and EtOH
   withdrawal.
   # Respiratory failure/hypoxia: Likely related to an aspiration event in
   the setting of alcohol withdrawal. Other potential etiologies include
   CAP, influenza pneumonia or ARDS. Has known OSA and has refused CPAP in
   the past. Has moderate left ventricular diastolic dysfunction, question
   if also contributing to respiratory failure. He continues to exhibit
   ARDS like physiology at this time. [**Month (only) 51**] have flashed prior to transfer
   to MICU.
   - Cefepime x 7 days ([**Date range (1) 12808**]), Flagyl x 7 days ([**Date range (1) 12809**]),
   Levofloxacin x 7 days ([**Date range (1) 12809**]) for aspiration pneumonia/cover for
   CAP
   - ARDSnet protocol ventilation for ARDS
   - Wean vent and sedation as tolerated; continue on Propofol and
   intermittent with Valium prn CIWA
   - Trend CXR
   - Albuterol, ipratropium nebs
   # Labile BP. Initial hypotension in the setting of intubation and
   alcohol withdrawal. [**Month (only) 51**] also be secondary to PEEP in ARDS ventilation.
   Patient also received all of his medications for BP on floor. Less
   likely related to sepsis given clinical presentation. Hypertensive
   episodes throughout the day [**1-22**]. Likely related with withdrawal as
   below.
   - Goal SBP 120-160
   - Start short-acting antihypertensives, IV labetalol
   - Wean vent and sedation as tolerated; continue on Propofol and
   intermittent with Valium prn CIWA
   # Alcohol withdrawal: Had episode of tremors, agitation, hypertension,
   low-grade fever and tachycardia during the [**1-22**] late evening and also
   [**1-22**] early morning prior to transfer to MICU.
   - Wean vent and sedation as tolerated; continue on Propofol and
   intermittent with Valium prn CIWA
   - Follow up social work consult recommendations; appreciate their input
   # Fever: Etiology likely multifactorial, related with alcohol
   withdrawal, ICH, ARDS. [**Month (only) 51**] also be related with aspiration pneumonitis.
   Unlikely sepsis given clinical picture.
   - Trend fever
   - Follow cultures
   # ICH: Stable. Neurosurgery is following.
   - Continue to follow neurosurgery recommendations; appreciate their
   input
   - Defer head CT at this time and re-assess neuro exam once weaned off
   sedation
   - Hold Coumadin x 1 month
   - Trend INR goal 1.5; consider additional FFP for neurologic decline or
   bleeding
   # L Non-displaced temporal bone fracture: ENT has signed off.
   - Ciprodex otic 5 gtts TID both ears x10 days
   - Dexamethasone 5 gtts TID left ear x 10 days
   - Audiogram in 1 week; can be done as outpatient
   - Dry ear precautions AS
   - Follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 732**], ORL attending in [**1-1**] weeks
   # Diabetes:
   - Hold home glipizide for now
   - ISS goal FS 100-130
   # Elevated INR: No obvious signs of synthetic dysfunction, so likely
   due to warfarin and poor nutrition.
   - Trend INR
   - Trend ALT/AST, AP, TBili for possible alcoholic hepatitis
   # Acute Kidney Insufficiency: Cr currently elevated. Likely in the
   setting of pre-renal hypotension. Question response to CTA dye load
   although s/p NAC as appropriate.
   - Trend Cr
   - IVF
   - Trend UOP
   # TnT Elevation: Likely due to recent ablation. Have trended down. ECG
   unchanged. No acute interventions.
   - Obtain EKG as patient on Sotalol with [**Last Name (un) **].
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-1-23**] 12:08 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-1-22**] 10:03 AM
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-01-24 11:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure/Aspiration pneumonia, DTs,
   intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   SBPs intermittently in 180s
   24 Hour Events:
 EKG - At [**2129-1-23**] 11:19 AM
 EKG - At [**2129-1-23**] 10:27 PM
 EKG - At [**2129-1-24**] 06:19 AM
 FEVER - 101.9
F - [**2129-1-23**] 12:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-23**] 09:00 PM
   Cefipime - [**2129-1-24**] 08:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Labetalol - [**2129-1-23**] 11:18 AM
   Metoprolol - [**2129-1-24**] 06:46 AM
   Diazepam (Valium) - [**2129-1-24**] 10:25 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-1-24**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.6
   HR: 107 (68 - 120) bpm
   BP: 107/68(81) {77/45(54) - 184/101(129)} mmHg
   RR: 24 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  2,016 mL
                                                                  1,102 mL
   PO:
             TF:
                                                                    267 mL
                                                                    410 mL
   IVF:
                                                                  1,559 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                  1,023 mL
                                                                    700 mL
   Urine:
                                                                  1,023 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    993 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   Compliance: 57 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/42/149/26/3
   Ve: 9.7 L/min
   PaO2 / FiO2: 373
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Non-tender, Distended, protugberant
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, does open
   eyes to voice
   Labs / Radiology
   9.3 g/dL
   172 K/uL
   136 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.6 mEq/L
   20 mg/dL
   107 mEq/L
   142 mEq/L
   28.3 %
   7.5 K/uL
        [image002.jpg]
                             [**2129-1-22**]  11:14 PM
                             [**2129-1-23**]  02:10 AM
                             [**2129-1-23**]  02:32 AM
                             [**2129-1-23**]  08:41 AM
                             [**2129-1-23**]  01:25 PM
                             [**2129-1-23**]  01:35 PM
                             [**2129-1-23**]  06:00 PM
                             [**2129-1-24**]  02:33 AM
                             [**2129-1-24**]  03:23 AM
                             [**2129-1-24**]  03:44 AM
   WBC
   13.3
   7.5
   Hct
   29.6
   28.3
   Plt
   263
   172
   Cr
   1.9
   1.8
   1.4
   TCO2
   30
   28
   25
   25
   27
   29
   29
   Glucose
   117
   146
   136
   Other labs: PT / PTT / INR:13.6/25.0/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   68 yo man with with recent atrial ablation in MICU with intracranial
   hemorrhage, aspiration pneumonia, respiratory failure, etoh withdrawal.
   1. Intracranial hemorrhage
   -Nsurg following
   -Nicardipine gtt if BP continues to be high
   2.  Resp Failure
   -Try to wean PEEP
   -Narrow abx to levoflox
   -Reculture given fever but could be [**2-1**] withdrawal
   3. DT's - Valium 10mg prn.  On propofol as well
   4. DM - RISS, hold oral meds
   5. Mild renal insufficiency - Cr lower today
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-1-23**] 12:08 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-1-22**] 10:03 AM
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2129-01-25 07:57:00 Physician Resident Progress Note
Chief Complaint: S/p fall w/ temporal #, SAH, SDH.
   24 Hour Events:
   - Nicardipine gtt for BP 140s-150s
   - Neurosurgery: INR <1.5, continue freguent neuro exams.
   - Withdrawal: Valium DC'd, will use propofal
   - DC'd Cefepime/Flagyl, Continued Levofloxacin.
   - Cefepime/Flagyl DC'd
   - PCP [**Name Initial (PRE) 2057**] ?Olovic [**Telephone/Fax (1) 12855**]: [**Doctor First Name 6987**] spoke with her. No major news.
   - Attempted to wean PEEP - Multiple attempts with PEEP down to 12 ->
   Pa02 to 60s. PEEP then back to 50%.
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Family / [**Hospital 75**] Medical [**Name2 (NI) 12856**]
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-23**] 09:00 PM
   Cefipime - [**2129-1-24**] 08:00 AM
   Infusions:
   Propofol - 20.2 mcg/Kg/min
   Nicardipine - 2 mcg/Kg/min
   Other ICU medications:
   Diazepam (Valium) - [**2129-1-24**] 10:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-25**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 119 (107 - 124) bpm
   BP: 153/85(106) {91/63(72) - 188/101(130)} mmHg
   RR: 21 (19 - 26) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  2,897 mL
                                                                  1,543 mL
   PO:
             TF:
                                                                    917 mL
                                                                    317 mL
   IVF:
                                                                  1,699 mL
                                                                  1,047 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                  1,240 mL
   Urine:
                                                                  3,740 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -843 mL
                                                                    303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 90 cmH2O/mL
   SpO2: 95%
   ABG: 7.47/38/98.[**Numeric Identifier 176**]/28/3
   Ve: 10.7 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   10.4 g/dL
   163 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.1 mEq/L
   14 mg/dL
   106 mEq/L
   142 mEq/L
   30.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2129-1-24**]  03:44 AM
                             [**2129-1-24**]  12:02 PM
                             [**2129-1-24**]  12:07 PM
                             [**2129-1-24**]  08:04 PM
                             [**2129-1-24**]  09:11 PM
                             [**2129-1-24**]  11:18 PM
                             [**2129-1-25**]  01:27 AM
                             [**2129-1-25**]  02:11 AM
                             [**2129-1-25**]  02:27 AM
                             [**2129-1-25**]  04:44 AM
   WBC
   8.9
   Hct
   30.1
   Plt
   264
   Cr
   1.2
   1.0
   TCO2
   29
   29
   30
   27
   30
   31
   31
   28
   Glucose
   195
   163
   Other labs: PT / PTT / INR:13.3/22.3/1.1, ALT / AST:[**10-15**], Alk Phos / T
   Bili:57/0.4, Lactic Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.9 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR from this a.m.:
   Microbiology: MRSA screen positive.
   ECG: No new.
   Assessment and Plan
   68 yo M with DM, EtOH abuse, s/p a recent a. fib ablation admitted for
   ICH and found to have aspiration pneumonitis/pneumonia and EtOH
   withdrawal.
   # Subarachnoid hemorrhage
   Neurosurgery following. Given territory of bleed, difficult to assess
   status clinically (higher function). CT reassuring.
   - Control pressure to < 160 mmHg
   - Repeat CT if change in clinical status or suspicious of bleed
   - Holding coumadin for one month with goal INR 1.5
   - Wake-ups q4 and check neurological status
   - Will follow-up with Neurosurgery in one month with head CT
   # Alcohol withdrawal
   Difficult to evaluate baseline hypertension versus withdrawal, but now
   in excess of 80 mg given. Will likely safely taper within half-life.
   Also covered with propofol.
   - Continue light sedation
   - Restart home pressure meds to get back to baseline
   - Then treat signs of withdrawal
   # Respiratory failure/hypoxia
   Likely CAP with no radiographic evidence of aspiration.
   - Levofloxacin x 7 days ([**Date range (1) 12809**]) for CAP
   - Stop aspiration - pneumonia coverage given no radiographic evidence
   - ARDSnet protocol ventilation for ARDS
   - Wean vent and sedation as tolerated; continue on Propofol and
   intermittent with Valium prn CIWA
   - Trend CXR
   - Albuterol, ipratropium nebs
   # Labile BP
   Likely related to holding BP meds as well as withdrawal.
   - Goal SBP 120-160
   - restart home meds as above
   - Valium per hypertension/tachycardia/diaphoresis/agitation thereafter
   # Fever
   Likely secondary to withdrawal and PNA.
   # L Non-displaced temporal bone fracture
   ENT has signed off.
   - Ciprodex otic 5 gtts TID both ears x10 days
   - Dexamethasone 5 gtts TID left ear x 10 days
   - Audiogram in 1 week; can be done as outpatient
   - Dry ear precautions AS
   - Follow up with Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 732**], ORL attending in [**1-1**] weeks
   # Diabetes:
   - Hold home glipizide for now
   - ISS goal FS 100-130
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-1-24**] 06:08 PM 40 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: patient and family
   Code status: Full code
   Disposition:

2129-01-25 11:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, EtOH withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt off sedation at moment - only c/o abd discomfort.  Has not moved
   bowels for several days
   24 Hour Events:
   Unable to wean PEEP overnight
   Remains on nicardipine gtt
   History obtained from [**Hospital 15**] Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-23**] 09:00 PM
   Cefipime - [**2129-1-24**] 08:00 AM
   Infusions:
   Nicardipine - 2 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-1-25**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.3
   HR: 115 (107 - 127) bpm
   BP: 144/80(100) {91/63(72) - 188/101(130)} mmHg
   RR: 26 (19 - 26) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  2,897 mL
                                                                  1,861 mL
   PO:
             TF:
                                                                    917 mL
                                                                    444 mL
   IVF:
                                                                  1,699 mL
                                                                  1,237 mL
   Blood products:
   Total out:
                                                                  3,740 mL
                                                                  1,760 mL
   Urine:
                                                                  3,740 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -843 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 90 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/37/74/28/3
   Ve: 13.6 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended, tympanitic
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   264 K/uL
   163 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   14 mg/dL
   106 mEq/L
   142 mEq/L
   30.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2129-1-24**]  12:02 PM
                             [**2129-1-24**]  12:07 PM
                             [**2129-1-24**]  08:04 PM
                             [**2129-1-24**]  09:11 PM
                             [**2129-1-24**]  11:18 PM
                             [**2129-1-25**]  01:27 AM
                             [**2129-1-25**]  02:11 AM
                             [**2129-1-25**]  02:27 AM
                             [**2129-1-25**]  04:44 AM
                             [**2129-1-25**]  09:05 AM
   WBC
   8.9
   Hct
   30.1
   Plt
   264
   Cr
   1.2
   1.0
   TCO2
   29
   30
   27
   30
   31
   31
   28
   28
   Glucose
   195
   163
   Other labs: PT / PTT / INR:13.3/22.3/1.1, ALT / AST:[**10-15**], Alk Phos / T
   Bili:57/0.4, Lactic Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   68 yo man with with recent atrial ablation in MICU with intracranial
   hemorrhage, aspiration pneumonia, respiratory failure, etoh withdrawal.
   1. Intracranial hemorrhage
   -Nicardipine gtt --> transition to home meds
   2.  Resp Failure
   -Still needing high PEEP level - could be [**2-1**] abd distention --> will
   work on him moving bowels
   -levoflox
   -Still with low grade temps
   3. DT's - appears to be resolving.  On low dose propofol while
   intubated
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-1-24**] 06:08 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2129-01-26 07:51:00 Physician Resident Progress Note
Chief Complaint: SAH, SDH and non-displaced spinal # s/p fall.
   Transferred from Neurosurgery with PNA/respiratory failure/HTN/EtOH
   w/d.
   24 Hour Events:
 BLOOD CULTURED - At [**2129-1-26**] 04:13 AM
   - Neurosurgery signed off in the morning.
   - Increased bowel regimen as abdominal distention likely inhibiting
   successful wean off of the vent. Patient had a bowel movement in the
   afternoon. KUB was repeated in the evening which showed dilated bowel
   per my read.
   - Restarted home Lisinopril at half dose (20mg) and will plan to
   titrate up (40mg). Started Diltiazem drip (home Nifedipine cannot be
   crushed) for tachycardia and HTN; added Clonidine patch; restarted
   Nicardipine drip.
   - About 1.5 L OG output this a.m.
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 75**] Medical
   [**Name2 (NI) 1876**]s
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-23**] 09:00 PM
   Cefipime - [**2129-1-24**] 08:00 AM
   Infusions:
   Nicardipine - 2 mcg/Kg/min
   Propofol - 14.9 mcg/Kg/min
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2129-1-25**] 03:25 PM
   Labetalol - [**2129-1-26**] 02:12 AM
   Other medications:
   See POE.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-26**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 106 (93 - 128) bpm
   BP: 148/84(103) {107/67(79) - 187/106(131)} mmHg
   RR: 24 (19 - 26) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  2,956 mL
                                                                    424 mL
   PO:
             TF:
                                                                    800 mL
   IVF:
                                                                  1,696 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    165 mL
   Urine:
                                                                  2,335 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    621 mL
                                                                    259 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 17 cmH2O
   Plateau: 5 cmH2O
   Compliance: -90 cmH2O/mL
   SpO2: 95%
   ABG: 7.44/42/84.[**Numeric Identifier 1000**]/25/3
   Ve: 10.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Sedated
 responsive to loud voice and but not answering yes/no
   questions (will reevaluate later today when off Propofol again). Able
   to move limbs and open hands well.
   Transmitted upper airway sounds. Difficult to auscultate heart over
   vent.
   Belly distended and tympanic
 no fluid level. Bowel sounds reduced.
   Passing gas.
   Foley, OG and Flexiseal in place
   Trace edema at extremities, no cyanosis.
   Labs / Radiology
   289 K/uL
   11.3 g/dL
   179 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.6 mEq/L
   21 mg/dL
   108 mEq/L
   145 mEq/L
   33.2 %
   9.8 K/uL
        [image002.jpg]
                             [**2129-1-25**]  02:27 AM
                             [**2129-1-25**]  04:44 AM
                             [**2129-1-25**]  09:05 AM
                             [**2129-1-25**]  03:03 PM
                             [**2129-1-25**]  03:16 PM
                             [**2129-1-25**]  10:01 PM
                             [**2129-1-26**]  12:37 AM
                             [**2129-1-26**]  02:49 AM
                             [**2129-1-26**]  03:42 AM
                             [**2129-1-26**]  05:56 AM
   WBC
   9.6
   9.8
   Hct
   31.6
   33.2
   Plt
   272
   289
   Cr
   1.1
   1.3
   TCO2
   31
   28
   28
   30
   29
   29
   29
   29
   Glucose
   175
   179
   Other labs: PT / PTT / INR:12.7/21.3/1.1, ALT / AST:[**10-15**], Alk Phos / T
   Bili:57/0.4, Lactic Acid:0.9 mmol/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.2 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: Chest from today:
   Worsening of the left basal opacity that might represent
   progression of atelectasis or new area of aspiration given the known
   history
   of aspiration pneumonias. Right lung appears unremarkable.
   Abdomen from yesterday:
   Microbiology: Blood cultures pending without growth from 23,25,26,27
   ECG: No new EKG from today.
   Assessment and Plan
   Mr [**Known lastname 12875**] is a 68 yo M s/p fall while EtOH intox > skull #, SAH, SDH.
   Active issues: PNA resolving, HTN, withdrawal.
   # Respiratory Failure
   Abdominal distension, resolving pneumonia, some COPD. CXR more likely
   atellectasis given at left base. Will follow clinically and
   radiologically. Being treated for PNA and gradual clinical improvement.
   - Continue to move bowels so that PEEP can decrease
   - Extubate when needing PEEP 5
   - Finish course of levofloxacin (still temperature, and most likely [**2-1**]
   previous CXR/resp. findings.
   # Hypertension
   Baseline difficult to control pressure and now withdrawal also.
   - Stop clonidine
   - Restart ACE (start 20 and home 40), sotalol (120) and short acting
   nifedipine (90 CR at home) when taking POs
   - While OG output/suspicion of partial obstruction/ileus, continue dilt
   and nicardipine
   # Skull fracture
   - Cipro and dex ear drops per ENT - check duration
   - F/u with ENT
   # SAH/SDH
   - Follow up CT and Neurosurgery appointment in one month
   # COPD
   Not convincing COPD flare, but still some wheeze and benefit from nebs.
   - Continue albuterol and ipratropium for now
   # Constipation
   Contributing to respiratory compromise
   - Hold lactulose PO given OG output
   - Colace, senna, bisacodyl
   - Soap [**Last Name (un) **] enema
   # Nutirition
   - Hold tube feeds, thiamine, folate, restart when OG output ceases.
   # Withdrawal
   Few symptoms, but may be contributing to AF, tachycardia and
   hypertension.
   - Follow clinically
   # Atrial flutter
   Off coumadin for one month.
   - Continue dilt IV
   - Restart sotalol when taking POs
   - Restart coumadin in one month
   - Cardiology follow-up
   # Diabetes
   - ISS
   - Glipizide held
   # Electrolytes
   - Ca, Mg, K Phos sliding scales
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2129-01-26 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, EtOH withdrawal, intracranial
   hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt remains distended with high OGT output
   PEEP down to 10 --> pO2 62 with decrease of PEEP to 8
   24 Hour Events:
 BLOOD CULTURED - At [**2129-1-26**] 04:13 AM
   History obtained from Medical records, icu team
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-23**] 09:00 PM
   Cefipime - [**2129-1-24**] 08:00 AM
   Infusions:
   Nicardipine - 2 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2129-1-25**] 03:25 PM
   Labetalol - [**2129-1-26**] 02:12 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-1-26**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 94 (93 - 128) bpm
   BP: 111/73(85) {107/67(79) - 187/106(131)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 90%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  2,956 mL
                                                                    593 mL
   PO:
             TF:
                                                                    800 mL
   IVF:
                                                                  1,696 mL
                                                                    593 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                  1,835 mL
   Urine:
                                                                  2,335 mL
                                                                    235 mL
   NG:
   1,600 mL
   Stool:
   Drains:
   Balance:
                                                                    621 mL
                                                                 -1,242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   Plateau: 5 cmH2O
   Compliance: -90 cmH2O/mL
   SpO2: 90%
   ABG: 7.44/41/62/25/3
   Ve: 10.4 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   289 K/uL
   179 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.6 mEq/L
   21 mg/dL
   108 mEq/L
   145 mEq/L
   33.2 %
   9.8 K/uL
        [image002.jpg]
                             [**2129-1-25**]  04:44 AM
                             [**2129-1-25**]  09:05 AM
                             [**2129-1-25**]  03:03 PM
                             [**2129-1-25**]  03:16 PM
                             [**2129-1-25**]  10:01 PM
                             [**2129-1-26**]  12:37 AM
                             [**2129-1-26**]  02:49 AM
                             [**2129-1-26**]  03:42 AM
                             [**2129-1-26**]  05:56 AM
                             [**2129-1-26**]  09:21 AM
   WBC
   9.6
   9.8
   Hct
   31.6
   33.2
   Plt
   272
   289
   Cr
   1.1
   1.3
   TCO2
   28
   28
   30
   29
   29
   29
   29
   29
   Glucose
   175
   179
   Other labs: PT / PTT / INR:12.7/21.3/1.1, ALT / AST:[**10-15**], Alk Phos / T
   Bili:57/0.4, Lactic Acid:1.1 mmol/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   68 yo man with with recent atrial ablation in MICU with intracranial
   hemorrhage, aspiration pneumonia, respiratory failure, etoh withdrawal.
   1. Intracranial hemorrhage
   -Stable
   -Nicardipine gtt --> transition to home meds
   -Abx ear gtts
   2.  Resp Failure
   -PEEP requirement [**2-1**] abd distention
   -Con tlevoflox
   -Still with low grade temps
   3. DT's - appears to be resolving.  On low dose propofol while
   intubated
   4. Ileus: Remains NPO. Rectal tube in place
   --Cont to work on decompression/moving bowels
   5. Afib: Sotolol when able to tolerate OGT meds again
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2129-01-27 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family updated by [**Doctor First Name 2682**].
   - BM: Nothing after soap suds enema. Nothing in rectum.
   - OG output: 2 liters till 3pm
   - BP/Rate Control: Well rate controlled 90 - low hundreds. BP 140-150s.
   Systolics to 80s-100s when propofol increased during episode of
   decreased 02 saturation.
   - Urine Output dropped over the course of the day. Given increased OG
   output bolused one liter NS
   - Spiked 102.4 overnight. Urine/Blood Cultured. Given concern for
   aspiration flagyl added to levofloxacin. Endotracheal gram
   stain/culture sent. This regimen may need to be broadened if patient
   does not improve - HAP coverage, etc.
   - 02sat dropped to 90s overnight, Recruitment without success, CXR
   performed given concern for aspiration no major changes, Oxgenation
   improved with increased PEEP, Fi02 was weaned down.
   - Called this morning with concerns that during wake up patient was
   posturing with left upper extremity. Decreased propofol, On my exam
   patient seemed to move right upper/lower extremity. Less movement in
   left upper extremity. Pupils equal. Propofol increased when patient
   became dysynchronous with vent, limiting exam. Non Contrast Head CT.
   - Increased distention of abdomen overnight, sent for non contrast CT
   of thorax (given further hypoxia)
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Cefipime - [**2129-1-24**] 08:00 AM
   Metronidazole - [**2129-1-27**] 02:36 AM
   Infusions:
   Nicardipine - 1.5 mcg/Kg/min
   Diltiazem - 15 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.7
C (99.9
   HR: 121 (91 - 121) bpm
   BP: 132/87(100) {99/66(76) - 168/89(107)} mmHg
   RR: 36 (16 - 36) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
    CVP: 359 (8 - 361)mmHg
   Total In:
                                                                  2,381 mL
                                                                  3,426 mL
   PO:
   TF:
   IVF:
                                                                  2,381 mL
                                                                  2,526 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                     81 mL
   Urine:
                                                                    575 mL
                                                                     81 mL
   NG:
                                                                  2,250 mL
   Stool:
   Drains:
   Balance:
                                                                   -444 mL
                                                                  3,345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 90 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/37/187/23/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 312
   Physical Examination
   GENERAL: Sedated
 responsive to loud voice and but not answering
   yes/no questions (will reevaluate later today when off Propofol again).
   Able to move limbs and open hands well.
   RESP: Transmitted upper airway sounds. Difficult to auscultate heart
   over vent.
   CV: Tachycardic
   ABD: Belly distended and tympanic
 no fluid level. Bowel sounds
   reduced, hypoactive. Passing gas.
   GU: Foley, OG and Flexiseal in place
   EXT: Trace edema at extremities, no cyanosis.
   NEURO: Moving right upper and lower extremities well. Less movement in
   left upper extremity. Pupils equal.
   Labs / Radiology
   341 K/uL
   12.0 g/dL
   188 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   29 mg/dL
   110 mEq/L
   143 mEq/L
   35.2 %
   14.9 K/uL
        [image002.jpg]
                             [**2129-1-26**]  12:37 AM
                             [**2129-1-26**]  02:49 AM
                             [**2129-1-26**]  03:42 AM
                             [**2129-1-26**]  05:56 AM
                             [**2129-1-26**]  09:21 AM
                             [**2129-1-26**]  04:12 PM
                             [**2129-1-26**]  11:33 PM
                             [**2129-1-27**]  01:19 AM
                             [**2129-1-27**]  02:49 AM
                             [**2129-1-27**]  03:11 AM
   WBC
   9.8
   14.9
   Hct
   33.2
   35.2
   Plt
   289
   341
   Cr
   1.3
   1.4
   TCO2
   29
   29
   29
   29
   29
   25
   26
   25
   Glucose
   179
   188
   Other labs: PT / PTT / INR:12.7/21.1/1.1, ALT / AST:[**10-15**], Alk Phos / T
   Bili:57/0.4, Lactic Acid:1.1 mmol/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.3 mg/dL
   Imaging: CXR: Pending
   Microbiology: Blood Cx: Pending
   Urine Cx: Pending
   Assessment and Plan
   Mr [**Known lastname 12875**] is a 68 yo M s/p fall while EtOH intox > skull #, SAH, SDH.
   Active issues: PNA resolving, HTN, withdrawal.
   # Respiratory Failure
   Episodes of hypoxia overnight. Minimal response with PEEP to 10. No
   change with recruitment maneuvers. PEEP increased to 15, Fi02 to 100%
   with good response. Fi02 weaned down overnight. Concern for plugging,
   aspiration pneumonia, HAP. Less likely PE. Abdominal distension
   obviously has effect on respiratory mechanics. CXR yesterday without
   change in ETT tube, pneumo, or appreciable change in parenchymal
   disease.
   - Levo, Flagyl for aspiration pneumonia; consider expand coverage to
   Vanc/Zosyn/Flagyl to cover for hospital acquired pneumonia
   - Follow up CT torso
   - Reduce abdominal distention as discussed below
   - SBT, extubate when able (i.e. PEEP 5)
   #Abdominal Distention/possible partial SBO
   KUB with illeus. Large amount of air in colon. No stool in rectum
   flexiseal in place. 1.5 liters from 0G tube yesterday. Enema of no
   benefit given lack of stool in rectum. Unable to take POs currently.
   Clinically distention worsened today, with minimal bowel sounds.
   Lactate stable.
   - NPO, IVF maintenance
   - Follow up CT torso
   - Continue OG tube to intermittent suction, flexiseal in place
   - Serial abdominal exam
   - Surgery consult
   # Fever/Leukocytosis
   Temperature to 102.4 overnight with new leukocytosis. Blood/Urine
   cultures sent. CXR without clear new infiltrate. Given history of
   vomiting x2 yesterday may be aspiration pneumonitis vs pneumonia. Also
   consider HAP. Less likely intraabdominal pathology however possible. UA
   without infection.
   - Follow up CT torso
   - Follow up cultures
   - Levo, Flagyl for aspiration pneumonia; consider expand coverage to
   Vanc/Zosyn/Flagyl to cover for hospital acquired pneumonia
   # ? Change in Neuro Status/Deficits
   Per Nursing concern this AM. Unable to wean propofol enough to
   appreciate exam. With minimal sedation patient appears to move right
   upper and lower extremity however would not move left upper and lower
   extremity. Would not follow my finger. Pupils were ERRL. Unlikely
   secondary to repeat bleed given INR and neuro findings. If patient does
   have real deficits which I doubt given level of sedation would be
   secondary to right MCA stroke. Pt does have A. Fib without adequate
   anticoagulation currently.
   - Follow up CT head
   - Wean sedation to further evaluate neuro exam
   - Based on CT Head would recontact neurosurgery or neurology depending
 I think this will be unlikely
   # Atrial flutter
   Off coumadin for one month. Poor rate control when febrile/sedation
   decreased.
   - Continue dilt IV
   - Restart sotalol when taking POs
   - Restart coumadin in one month
   - Cardiology follow-up
   # Hypertension
   Baseline difficult to control pressure and now withdrawal also.
   - Restart ACE (start 20 and home 40), sotalol (120) and short acting
   nifedipine (90 CR at home) when taking POs
   - While OG output/suspicion of partial obstruction/ileus, continue dilt
   and nicardipine
   # Skull fracture
   - Cipro and dex ear drops per ENT - check duration
   - F/u with ENT
   # SAH/SDH. Needs follow up CT and Neurosurgery appointment in one month
   - Follow up CT head
   # COPD
   Not convincing COPD flare, but still some wheeze and benefit from nebs.
   - Continue albuterol and ipratropium for now
   # Nutrition
   - Hold tube feeds given abdominal distention, Thiamine, MVI, Folate IV.
   - NPO
   # Withdrawal
   Few symptoms, but may be contributing to AF, tachycardia and
   hypertension.
   - Follow clinically
   # Diabetes
   - ISS
   - Glipizide held
   # Electrolytes
   - Ca, Mg, K Phos sliding scales
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2129-01-27 10:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Dropped O2 sats overnight with attempt to weran PEEP
   Just got CT head, torso
   24 Hour Events:
 FEVER - 102.7
C - [**2129-1-27**] 03:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-27**] 02:36 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-1-27**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.7
C (99.9
   HR: 115 (91 - 131) bpm
   BP: 113/84(95) {98/66(76) - 168/91(107)} mmHg
   RR: 28 (23 - 36) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
   CVP: 359 (8 - 361)mmHg
   Total In:
                                                                  2,381 mL
                                                                  3,547 mL
   PO:
   TF:
   IVF:
                                                                  2,381 mL
                                                                  2,647 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    101 mL
   Urine:
                                                                    575 mL
                                                                    101 mL
   NG:
                                                                  2,250 mL
   Stool:
   Drains:
   Balance:
                                                                   -444 mL
                                                                  3,446 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 90 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/37/187/23/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 312
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended, abd severely distended and typanitic
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   341 K/uL
   188 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   29 mg/dL
   110 mEq/L
   143 mEq/L
   35.2 %
   14.9 K/uL
        [image002.jpg]
                             [**2129-1-26**]  12:37 AM
                             [**2129-1-26**]  02:49 AM
                             [**2129-1-26**]  03:42 AM
                             [**2129-1-26**]  05:56 AM
                             [**2129-1-26**]  09:21 AM
                             [**2129-1-26**]  04:12 PM
                             [**2129-1-26**]  11:33 PM
                             [**2129-1-27**]  01:19 AM
                             [**2129-1-27**]  02:49 AM
                             [**2129-1-27**]  03:11 AM
   WBC
   9.8
   14.9
   Hct
   33.2
   35.2
   Plt
   289
   341
   Cr
   1.3
   1.4
   TCO2
   29
   29
   29
   29
   29
   25
   26
   25
   Glucose
   179
   188
   Other labs: PT / PTT / INR:12.7/21.1/1.1, ALT / AST:[**10-15**], Alk Phos / T
   Bili:57/0.4, Lactic Acid:1.1 mmol/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   68 yo man with with recent atrial ablation in MICU with intracranial
   hemorrhage, aspiration pneumonia, respiratory failure, etoh withdrawal.
   1. Intracranial hemorrhage
   -D/C nicardipine
   -Awaiting head CT read
   2.  Resp Failure
   -Ongoing PEEP requirment likely related to abd distention
   -Chest CT done --> appears to have low lung volumes, some dependent and
   lingular collapse, supporting abd distention as etiology of
   hypoxemia/PEEP dependence
   3. Ileus: Remains NPO. Rectal tube in place
   --Continues to have significant gas on KUBs
   --Abd CT with very large amount of gas through the bowels (awaiting
   final read)--> will ask GI to consult
   --Getting levo/flagyl  --> WBC rising
   4. Afib: Sotolol when able to tolerate OGT meds again
   5. Acute renal failure: Cr slowly drifting up with decreased urine
   output overnight
   -Check bladder pressure --> though lactate being low argues against inc
   intraabd pressure
   -Additional 1L of saline now
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT: Boot
   Stress ulcer: PPI
 change to iv
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2129-01-28 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2129-1-27**] 11:54 AM
 FEVER - 103.4
F - [**2129-1-28**] 12:00 AM
   - Radiology called regarding preliminary findings: CT chest
   unremarkable, small pericardial effusion.  Multiple loops of dilated
   large and small bowel. No clear transition point, but perhaps at some
   point in the proximal portion of the decending colon. Small segment of
   fecalized small bowel upstream to that, and a lot of edema in that
   area. Fluid collection around spleen. Findings concerning for
   mesenteric ischemia given diffuse ileus without clear transition.
   Recommend CTA if clinically worsens.
   - Surgery: Differential includes small bowel obstruction, large bowel
   obstruction secondary to mass or stricture, or mesenteric ischemia
   given recent reversal of AC and ablation procedure. Would continue
   conservative mgt for now as patient is not clinically decompensating;
   cont NGT to cont med suction, pull back 6-8cm as in too deep; serial
   abdominal exams, trend lactate, monitor WBC.
   - Updated family in early afternoon.
   - Pulled back NGT as recommended and restarted after placement
   confirmed.
   - 1L NS at 500 cc/hr then LR for support given obstruction.
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Cefipime - [**2129-1-27**] 08:30 PM
   Vancomycin - [**2129-1-27**] 09:23 PM
   Metronidazole - [**2129-1-28**] 04:00 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-27**] 11:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-28**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 39.7
C (103.4
   Tcurrent: 38.1
C (100.5
   HR: 113 (82 - 129) bpm
   BP: 125/85(101) {90/64(73) - 129/86(101)} mmHg
   RR: 26 (26 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
    CVP: 9 (9 - 12)mmHg
   Bladder pressure: 14 (14 - 17) mmHg
   Total In:
                                                                  9,034 mL
                                                                  2,568 mL
   PO:
   TF:
   IVF:
                                                                  8,134 mL
                                                                  2,568 mL
   Blood products:
   Total out:
                                                                  1,081 mL
                                                                    220 mL
   Urine:
                                                                    481 mL
                                                                    220 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  7,953 mL
                                                                  2,348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.33/36/125/19/-6
   Ve: 13.1 L/min
   PaO2 / FiO2: 208
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   360 K/uL
   11.2 g/dL
   207 mg/dL
   2.1 mg/dL
   19 mEq/L
   3.9 mEq/L
   46 mg/dL
   109 mEq/L
   140 mEq/L
   34.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2129-1-26**]  11:33 PM
                             [**2129-1-27**]  01:19 AM
                             [**2129-1-27**]  02:49 AM
                             [**2129-1-27**]  03:11 AM
                             [**2129-1-27**]  11:29 AM
                             [**2129-1-27**]  03:54 PM
                             [**2129-1-27**]  05:46 PM
                             [**2129-1-27**]  07:46 PM
                             [**2129-1-28**]  02:48 AM
                             [**2129-1-28**]  04:36 AM
   WBC
   14.9
   10.5
   11.4
   Hct
   35.2
   36.1
   34.8
   Plt
   [**Telephone/Fax (3) 12929**]
   Cr
   1.4
   1.7
   2.1
   TCO2
   25
   26
   25
   20
   21
   21
   20
   Glucose
   188
   203
   207
   Other labs: PT / PTT / INR:14.0/26.5/1.2, ALT / AST:[**10-15**], Alk Phos / T
   Bili:57/0.4, Lactic Acid:1.3 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.1 mg/dL
   [**2129-1-28**] CXR
 FINAL READ PENDING
   [**2129-1-27**] CT ABD/PELVIS
   1. Multiple mildly dilated loops of small and large bowel with areas of
   bowel wall thickening and mesenteric edema are concerning for
   mesenteric ischemia, especially given the patient's cardiac history. If
   there is increased clinical suspicion for ischemic bowel disease, a CTA
   of the abdomen could be considered.
   2. A transition point at the proximal portion of the descending colon
   is present, but the proximal bowel pattern does not suggest a high
   grade obstruction. An underlying mass is not visualized, however
   further characterization is limited by lack of IV contrast.
   3. Small perisplenic fluid collection.
   4. Small pericardial effusion.
   [**2129-1-27**] CT HEAD
   1. Evolving concussions in the bilateral frontal and left temporal
   lobes.
   2. Mild decrease in left frontal, subarachnoid and intraventricular
   hemorrhage.
   3. Unchanged, nondisplaced left temporal bone fracture.
   4. Mild paranasal sinus mucosal thickening.
   [**2129-1-28**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
      GRAM STAIN (Final [**2129-1-28**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
      RESPIRATORY CULTURE (Preliminary):
   [**2129-1-27**]  SPUTUM GRAM STAIN-PRELIMINARY; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
      GRAM STAIN (Preliminary):
         <10 PMNs and >10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
   [**2129-1-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2129-1-26**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2129-1-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2129-1-26**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY {GRAM
   POSITIVE COCCUS(COCCI)}; Aerobic Bottle Gram Stain-FINAL INPATIENT
      Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
      Aerobic Bottle Gram Stain (Final [**2129-1-27**]):
         GRAM POSITIVE COCCI IN CLUSTERS.
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 19:00 [**2129-1-27**].
   [**2129-1-25**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2129-1-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2129-1-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2129-1-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2129-1-22**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-FINAL; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2129-1-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2129-1-22**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   Assessment and Plan
   Mr [**Known lastname 12875**] is a 68 yo M s/p fall while EtOH intox > skull #, SAH, SDH.
   Active issues: PNA resolving, HTN, withdrawal, ileus.
   # Positive Blood Culture/Fever/Leukocytosis
   WBC stable, but patient with persistent fever and one set blood culture
   on [**1-26**] positive for gram positive cocci. Question sepsis from primary
   respiratory source versus contamination. Will treat broadly given
   concurrence of fevers and initial leukocytosis. Less likely primary
   abdominal source.
   - Vanc/Cefepime/Flagyl/Cipro given gram positive cocci in blood. Start
   date [**1-27**] for Vanc/Cefepime/Cipro. Covering HAP, aspiration PNA.
   - Follow cultures, await speciation
   - Levophed prn early goal directed MAP > 65, UOP > 33cc/hr, aggressive
   fluid hydration
   - Re-site central line
   - Remove arterial line
   # Respiratory Failure
   No repeat episodes of hypoxia. Continue PEEP at 15. Prior episodes of
   hypoxia concern for plugging, aspiration PNA, HAP as described above.
   Less likely PE. Abdominal distension obviously has effect on
   respiratory mechanics. CXR without change in ETT tube, pneumo, or
   appreciable change in parenchymal disease.
   - Continue antibiotics as above
   - Reduce abdominal distention as discussed below
   - SBT, extubate when able
   # Ileus vs Low Grade SBO/Abdominal Distention
   Persistent abdominal distention. No stool in rectum flexiseal in place.
   Enema of no benefit given lack of stool in rectum. 1.5 liters from OG
   tube yesterday. Unable to take POs currently. Minimal bowel sounds.
   Lactate stable.
   - NPO, IVF maintenance
   - Continue OG tube to intermittent suction, flexiseal in place
   - Serial abdominal exam
   - Follow surgery recommendations; appreciate their input
   - GI consult regarding recommendations
   # [**Last Name (un) **]. Likely secondary to hypotension in the setting of sepsis, ATN.
   - Trend Cr
   - Aggressive fluid resuscitation
   - Follow UOP > 30cc/hr
   - Dose Vancomycin by trough given rapidly changing Cr
   # Change in Neuro Status/Deficits
   Per nursing concern yesterday AM. Unable to wean propofol enough to
   appreciate exam. Difficult to assess interval change. CT head obtained
   without progression of bleed. Likely related with evolving concussion.
   - Wean sedation as tolerated to further evaluate neuro exam
   - Follow anticoagulation as patient with atrial fibrillation/flutter
   and no adequate anticoagulation at this time
   # Atrial flutter
   Off coumadin for one month. Poor rate control when febrile/sedation
   decreased.
   - Continue dilt IV
   - Restart sotalol when taking POs
   - Restart coumadin in one month
   - Cardiology follow-up
   # Hypertension
   Baseline difficult to control pressure and now withdrawal also.
   - Restart ACE (start 20 and home 40), sotalol (120) and short acting
   nifedipine (90 CR at home) when taking POs
   - While OG output/suspicion of partial obstruction/ileus, continue dilt
   and nicardipine
   # Skull fracture
   - Cipro and dex ear drops per ENT - check duration
   - F/u with ENT
   # SAH/SDH. Needs follow up CT and Neurosurgery appointment in one month
   # COPD
   Not convincing COPD flare, but still some wheeze and benefit from nebs.
   - Continue albuterol and ipratropium for now
   # Nutrition
   - Hold tube feeds given abdominal distention, Thiamine, MVI, Folate IV.
   - NPO
   # Withdrawal
   Few symptoms, but may be contributing to AF, tachycardia and
   hypertension.
   - Follow clinically
   # Diabetes
   - ISS
   - Glipizide held
   # Electrolytes
   - Ca, Mg, K Phos sliding scales
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-1-22**] 12:10 PM
 needs to be pulled today
   Multi Lumen - [**2129-1-22**] 03:00 PM
 will re-site line today
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP:  HOB elevation, antibiotics
   Comments:
   Communication:  Comments:  Patient and family
   Code status: Full code
   Disposition: ICU

2129-01-28 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, SBO, Intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Ongoing fevers overnight
   Started on neo low dose with improvment in urine output
   8L positive yesterday
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2129-1-27**] 11:54 AM
 FEVER - 103.4
F - [**2129-1-28**] 12:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-28**] 04:00 AM
   Vancomycin - [**2129-1-28**] 08:28 AM
   Cefipime - [**2129-1-28**] 10:00 AM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-27**] 11:28 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-1-28**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 39.7
C (103.4
   Tcurrent: 38.1
C (100.5
   HR: 117 (82 - 120) bpm
   BP: 120/79(94) {90/64(73) - 143/94(113)} mmHg
   RR: 25 (25 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
   CVP: 9 (9 - 12)mmHg
   Bladder pressure: 14 (14 - 17) mmHg
                                Total In:
                                                                  9,034 mL
                                                                  3,147 mL
   PO:
                                TF:
   IVF:
                                                                  8,134 mL
                                                                  3,147 mL
   Blood products:
   Total out:
                                                                  1,081 mL
                                                                    560 mL
   Urine:
                                                                    481 mL
                                                                    560 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  7,953 mL
                                                                  2,587 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.33/36/125/19/-6
   Ve: 15 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, tympanitic
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   360 K/uL
   207 mg/dL
   2.1 mg/dL
   19 mEq/L
   3.9 mEq/L
   46 mg/dL
   109 mEq/L
   140 mEq/L
   34.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2129-1-26**]  11:33 PM
                             [**2129-1-27**]  01:19 AM
                             [**2129-1-27**]  02:49 AM
                             [**2129-1-27**]  03:11 AM
                             [**2129-1-27**]  11:29 AM
                             [**2129-1-27**]  03:54 PM
                             [**2129-1-27**]  05:46 PM
                             [**2129-1-27**]  07:46 PM
                             [**2129-1-28**]  02:48 AM
                             [**2129-1-28**]  04:36 AM
   WBC
   14.9
   10.5
   11.4
   Hct
   35.2
   36.1
   34.8
   Plt
   [**Telephone/Fax (3) 12929**]
   Cr
   1.4
   1.7
   2.1
   TCO2
   25
   26
   25
   20
   21
   21
   20
   Glucose
   188
   203
   207
   Other labs: PT / PTT / INR:14.0/26.5/1.2, ALT / AST:[**10-15**], Alk Phos / T
   Bili:57/0.4, Lactic Acid:1.3 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   68 yo man with with recent atrial ablation in MICU with intracranial
   hemorrhage, aspiration pneumonia, respiratory failure, etoh
   withdrawal.  Now with ileus, ? obtruction in decscending colon.
   1. Intracranial hemorrhage
   -Stable
   2.  Resp Failure
   -Ongoing PEEP requirment related to abd distention
   -Cont to wean FIO2 as tolerated
   3. Ileus vs descending colon obstruction: Remains NPO. Rectal tube in
   place
   --Appreciate surgery recs --> will ask GI if they could be of
   assistence given transition point in descending colon
   --Getting vanc/cefepime/flagyl
   4. Afib: Sotolol when able to tolerate OGT meds again. Cont dilt.
   5. Acute renal failure:
   -Cr elevated to 2.1 but urine output improved at present. Appears to
   have better urine output on neo.
   6. Fevers/GPC bacteremia: Will resite central line and pull a-line.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-1-22**] 12:10 PM
   Multi Lumen - [**2129-1-22**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2129-01-29 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - GI performed flex sigmoidoscopy decompression with slight
   improvement. Recommended evaluation of vasculation with CTA abdomen
   once creatinine improved.
   - Surgery recommended serial exams and continued NGT decompression.
   - Blood cultures positive for coag negative staph; ID consulted and
   recommended f/u cultures (RIJ, a-line pulled and tips cultured),
   vancomycin trough, speciation, and LFTs/pancreatic enzymes (added to
   morning labs).
   - Left SC line inserted; new arterial line inserted.
   - Patient maintained on pressors throughout day/evening.
   - PM labs Cr 2.2, Vancomycin trough 14.3.
   - Discussed with Dr. [**Last Name (STitle) 2683**] and decided to defer CTA given [**Last Name (un) **] and
   clinical picture.
   - Lactate: 1.3 > 1.2 > 1.1  > 1.0 > 0.9
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Cefipime - [**2129-1-28**] 10:00 AM
   Metronidazole - [**2129-1-28**] 08:00 PM
   Vancomycin - [**2129-1-28**] 11:00 PM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Diltiazem - 15 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-28**] 03:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-29**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.3
   HR: 97 (93 - 118) bpm
   BP: 117/65(82) {95/54(66) - 141/94(111)} mmHg
   RR: 23 (14 - 28) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
    CVP: 14 (7 - 17)mmHg
   Total In:
                                                                  6,885 mL
                                                                  1,488 mL
   PO:
   TF:
   IVF:
                                                                  6,885 mL
                                                                  1,488 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    230 mL
   Urine:
                                                                  1,275 mL
                                                                    230 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  5,360 mL
                                                                  1,258 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   SpO2: 94%
   ABG: 7.21/52/81.[**Numeric Identifier 218**]/19/-7
   Ve: 11.4 L/min
   PaO2 / FiO2: 135
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   428 K/uL
   10.4 g/dL
   156 mg/dL
   2.4 mg/dL
   19 mEq/L
   3.9 mEq/L
   56 mg/dL
   109 mEq/L
   139 mEq/L
   32.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2129-1-27**]  03:54 PM
                             [**2129-1-27**]  05:46 PM
                             [**2129-1-27**]  07:46 PM
                             [**2129-1-28**]  02:48 AM
                             [**2129-1-28**]  04:36 AM
                             [**2129-1-28**]  11:53 AM
                             [**2129-1-28**]  06:01 PM
                             [**2129-1-28**]  11:16 PM
                             [**2129-1-29**]  03:02 AM
                             [**2129-1-29**]  03:20 AM
   WBC
   10.5
   11.4
   13.4
   Hct
   36.1
   34.8
   32.3
   Plt
   324
   360
   428
   Cr
   1.7
   2.1
   2.2
   2.4
   TCO2
   21
   21
   20
   21
   22
   22
   Glucose
   [**Telephone/Fax (3) 12941**]56
   Other labs: PT / PTT / INR:13.2/27.5/1.1, ALT / AST:18/25, Alk Phos / T
   Bili:67/0.5, Amylase / Lipase:/25, Differential-Neuts:64.0 %, Band:16.0
   %, Lymph:7.0 %, Mono:11.0 %, Eos:1.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.1 g/dL, LDH:229 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:5.8
   mg/dL
   Imaging: CXR: Pending
   Microbiology: Catheter Tip x2 ([**1-28**]): Pending
   Blood Cx ([**1-28**]): Pending
   [**2129-1-28**] 12:37 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2129-1-28**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
      RESPIRATORY CULTURE (Preliminary):
   [**2129-1-27**] 4:48 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2129-1-28**]):
         THIS IS A CORRECTED REPORT (09:25 [**2129-1-28**]).
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Doctor Last Name 12942**] -CC6D- @ 09:25 [**2129-1-28**].
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         PREVIOUSLY REPORTED AS ([**2129-1-27**]).
         <10 PMNs and >10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         commensal respiratory flora.
         STAPH AUREUS COAG +.    MODERATE GROWTH.
   [**2129-1-26**] 2:49 am BLOOD CULTURE      Source: Line-A-line.
      Blood Culture, Routine (Preliminary):
         STAPH AUREUS COAG +.    PRESUMPTIVE IDENTIFICATION.
            Consultations with ID are recommended for all blood cultures
            positive for Staphylococcus aureus and [**Female First Name (un) 1354**] species.
      Aerobic Bottle Gram Stain (Final [**2129-1-27**]):
         GRAM POSITIVE COCCI IN CLUSTERS.
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 19:00 [**2129-1-27**].
   Assessment and Plan
   Mr [**Known lastname 12875**] is a 68 yo M s/p fall while EtOH intox > skull #, SAH, SDH.
   Active issues: PNA resolving, HTN, withdrawal, ileus.
   # Positive Blood Culture/Fever/Leukocytosis
   WBC stable, but patient with persistent fever and one set blood culture
   on [**1-26**] positive for gram positive cocci. Question sepsis from primary
   respiratory source versus contamination. Will treat broadly given
   concurrence of fevers and initial leukocytosis. Less likely primary
   abdominal source.
   - Vanc/Cefepime/Flagyl/Cipro given gram positive cocci in blood. Start
   date [**1-27**] for Vanc/Cefepime/Cipro. Covering HAP, aspiration PNA.
   - Follow cultures, await speciation
   - Levophed prn early goal directed MAP > 65, UOP > 33cc/hr, aggressive
   fluid hydration
   - Re-site central line
   - Remove arterial line
   # Respiratory Failure
   No repeat episodes of hypoxia. Continue PEEP at 15. Prior episodes of
   hypoxia concern for plugging, aspiration PNA, HAP as described above.
   Less likely PE. Abdominal distension obviously has effect on
   respiratory mechanics. CXR without change in ETT tube, pneumo, or
   appreciable change in parenchymal disease.
   - Continue antibiotics as above
   - Reduce abdominal distention as discussed below
   - SBT, extubate when able
   # Ileus vs Low Grade SBO/Abdominal Distention
   Persistent abdominal distention. No stool in rectum flexiseal in place.
   Enema of no benefit given lack of stool in rectum. 1.5 liters from OG
   tube yesterday. Unable to take POs currently. Minimal bowel sounds.
   Lactate stable.
   - NPO, IVF maintenance
   - Continue OG tube to intermittent suction, flexiseal in place
   - Serial abdominal exam
   - Follow surgery recommendations; appreciate their input
   - GI consult regarding recommendations
   # [**Last Name (un) **]. Likely secondary to hypotension in the setting of sepsis, ATN.
   - Trend Cr
   - Aggressive fluid resuscitation
   - Follow UOP > 30cc/hr
   - Dose Vancomycin by trough given rapidly changing Cr
   # Change in Neuro Status/Deficits
   Per nursing concern yesterday AM. Unable to wean propofol enough to
   appreciate exam. Difficult to assess interval change. CT head obtained
   without progression of bleed. Likely related with evolving concussion.
   - Wean sedation as tolerated to further evaluate neuro exam
   - Follow anticoagulation as patient with atrial fibrillation/flutter
   and no adequate anticoagulation at this time
   # Atrial flutter
   Off coumadin for one month. Poor rate control when febrile/sedation
   decreased.
   - Continue dilt IV
   - Restart sotalol when taking POs
   - Restart coumadin in one month
   - Cardiology follow-up
   # Hypertension
   Baseline difficult to control pressure and now withdrawal also.
   - Restart ACE (start 20 and home 40), sotalol (120) and short acting
   nifedipine (90 CR at home) when taking POs
   - While OG output/suspicion of partial obstruction/ileus, continue dilt
   and nicardipine
   # Skull fracture
   - Cipro and dex ear drops per ENT - check duration
   - F/u with ENT
   # SAH/SDH. Needs follow up CT and Neurosurgery appointment in one month
   # COPD
   Not convincing COPD flare, but still some wheeze and benefit from nebs.
   - Continue albuterol and ipratropium for now
   # Nutrition
   - Hold tube feeds given abdominal distention, Thiamine, MVI, Folate IV.
   - NPO
   # Withdrawal
   Few symptoms, but may be contributing to AF, tachycardia and
   hypertension.
   - Follow clinically
   # Diabetes
   - ISS
   - Glipizide held
   # Electrolytes
   - Ca, Mg, K Phos sliding scales
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2129-01-29 10:18:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure, SBO, Intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2129-1-28**] 12:26 PM
 Flex sig
 MULTI LUMEN - START [**2129-1-28**] 12:59 PM
 ARTERIAL LINE - START [**2129-1-28**] 09:00 PM
 FEVER - 101.5
F - [**2129-1-28**] 08:00 AM
 Neo started for hypotension
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-28**] 08:00 PM
   Vancomycin - [**2129-1-29**] 08:31 AM
   Cefipime - [**2129-1-29**] 09:49 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Phenylephrine - 2 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-28**] 03:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-29**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 106 (93 - 118) bpm
   BP: 132/73(91) {95/54(66) - 132/80(94)} mmHg
   RR: 24 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
   CVP: 14 (7 - 17)mmHg
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  6,885 mL
                                                                  2,221 mL
   PO:
   TF:
   IVF:
                                                                  6,885 mL
                                                                  2,221 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    295 mL
   Urine:
                                                                  1,275 mL
                                                                    295 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  5,360 mL
                                                                  1,926 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.21/52/81.[**Numeric Identifier 218**]/19/-7
   Ve: 12.1 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   428 K/uL
   156 mg/dL
   2.4 mg/dL
   19 mEq/L
   3.9 mEq/L
   56 mg/dL
   109 mEq/L
   139 mEq/L
   32.3 %
   13.4 K/uL
        [image002.jpg]
                             [**2129-1-27**]  03:54 PM
                             [**2129-1-27**]  05:46 PM
                             [**2129-1-27**]  07:46 PM
                             [**2129-1-28**]  02:48 AM
                             [**2129-1-28**]  04:36 AM
                             [**2129-1-28**]  11:53 AM
                             [**2129-1-28**]  06:01 PM
                             [**2129-1-28**]  11:16 PM
                             [**2129-1-29**]  03:02 AM
                             [**2129-1-29**]  03:20 AM
   WBC
   10.5
   11.4
   13.4
   Hct
   36.1
   34.8
   32.3
   Plt
   324
   360
   428
   Cr
   1.7
   2.1
   2.2
   2.4
   TCO2
   21
   21
   20
   21
   22
   22
   Glucose
   [**Telephone/Fax (3) 12941**]56
   Other labs: PT / PTT / INR:13.2/27.5/1.1, ALT / AST:18/25, Alk Phos / T
   Bili:67/0.5, Amylase / Lipase:/25, Differential-Neuts:64.0 %, Band:16.0
   %, Lymph:7.0 %, Mono:11.0 %, Eos:1.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.1 g/dL, LDH:229 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:5.8
   mg/dL
   Assessment and Plan
   68M w/ recent atrial ablation in MICU with intracranial hemorrhage,
   aspiration pneumonia, respiratory failure, etoh withdrawal.  Now with
   ileus, ? obtruction in decscending colon.
   1. Sepsis/hypotension
   -has gone from hypertension to hypotension requiring pressors
   -vanc/cefipime/flagyl/cipro empirically - narrow as cx data becomes
   available
    2.  Resp Failure
   -Ongoing PEEP requirment related to abd distention
   -Cont to wean FIO2 as tolerated
   3. Ileus vs SBO
   -surgery & GI following
   4. Afib:
   -Sotolol when able to tolerate OGT meds again. Cont dilt.
   5. Acute renal failure:
   -Cr cont to rise 2.4 today
   -urine output 20-33cc/hr
   6. Fevers/GPC bacteremia:
   -central lines resited
   -Cx SCN from aline only so might be contaminant though since CVL in
   place at time can't exclude line infection
   7. ETOH withdrawal
   -CIWA scale
   8. Intracranial hemorrhage - SAH & SDH
   -Stable
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2129-02-01 08:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-31**]
   - Rate controlled with Esmolol drip 75 mcg/kg/minute
   - Vanco level 22
   - Flagyl d/c'd
   - Final cxs negative for urine ([**1-26**]), catheter tip ([**1-28**])
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-29**] 08:31 AM
   Cefipime - [**2129-1-31**] 10:30 AM
   Ciprofloxacin - [**2129-1-31**] 12:00 PM
   Metronidazole - [**2129-1-31**] 02:06 PM
   Infusions:
   Esmolol - 75 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-1**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 111 (97 - 118) bpm
   BP: 105/68(79) {80/59(72) - 156/94(95)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
    CVP: 15 (10 - 268)mmHg
   Total In:
                                                                  3,026 mL
                                                                    604 mL
   PO:
   TF:
   IVF:
                                                                  2,976 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  5,440 mL
                                                                  1,070 mL
   Urine:
                                                                  3,340 mL
                                                                    820 mL
   NG:
                                                                  1,200 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,414 mL
                                                                   -466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 587 (587 - 683) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 17 cmH2O
   SpO2: 91%
   ABG: 7.28/47/72/22/-4
   Ve: 11.3 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   Vent sounds
   Abdominal: Soft, Non-tender, Absent bowel sounds
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Non responsive to noxious stimuli
   Labs / Radiology
   352 K/uL
   8.3 g/dL
   169 mg/dL
   2.9 mg/dL
   22 mEq/L
   3.6 mEq/L
   56 mg/dL
   115 mEq/L
   148 mEq/L
   26.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2129-1-31**]  03:05 AM
                             [**2129-1-31**]  03:25 AM
                             [**2129-1-31**]  10:18 AM
                             [**2129-1-31**]  01:39 PM
                             [**2129-1-31**]  03:52 PM
                             [**2129-1-31**]  06:05 PM
                             [**2129-1-31**]  06:21 PM
                             [**2129-2-1**]  03:25 AM
                             [**2129-2-1**]  03:42 AM
                             [**2129-2-1**]  07:58 AM
   WBC
   13.4
   11.3
   Hct
   25.9
   26.6
   Plt
   318
   352
   Cr
   3.1
   3.0
   2.9
   TCO2
   25
   24
   20
   23
   23
   29
   23
   Glucose
   160
   153
   169
   Other labs: PT / PTT / INR:12.8/27.4/1.1, ALT / AST:17/19, Alk Phos / T
   Bili:65/0.5, Amylase / Lipase:/25, Differential-Neuts:82.0 %, Band:2.0
   %, Lymph:6.0 %, Mono:7.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Mr [**Known lastname 12875**] is a 68 yo M s/p fall while EtOH intox > skull #, SAH, SDH.
   Active issues: PNA resolving, HTN, withdrawal, ileus.
   Although presenting with head injury c/b SAH and SDH, his admission has
   been complicated by an ileus, worsening renal failure and stupor.
   # Ileus: Resolving, given flatus, stool, bowel sounds. Unclear
   etiology. Likely secondary to medications in the first instance, along
   with immobility. Possibly worsened by uremia. Continuing supportive
   measures as per SBO: Fluids, NPO, gentle suction to OG tube. GI has
   signed off.
   - Serial abdominal exam
   - Repeat KUB PRN
   # Positive Blood Culture/Fever/Leukocytosis
   Likely PNA given MRSA+ positive sputum. Will send UA again. Other sites
   of infection are possible. Meningitis is low probability and difficult
   to evaluate clinically given present exam
 consider LP to complete
   picture. Low grade fever persists fever and one set blood culture on
   [**1-26**] positive with coag neg staph. Broadly covered at present:
   Vancomycin/Cefepime/Ciprofloxacin/Flagyl. Now off pressors
   - Can d/c flagyl, given known culture data
   - Vanc/Cefepime/Cipro given gram positive cocci in blood. Start date
   [**1-27**] for Vanc/Cefepime/Cipro. Covering HAP.
   - Follow cultures, await speciation
   - Daily Blood Cultures
   # Respiratory Failure: Improving with PEEP from 15 yesterday to 12
   today. Brief desaturation only then maintaining well. Abdominal
   distension obviously has effect on respiratory mechanics. Changed to
   pressure support this morning.
   - Continue antibiotics as above
   - Expect reduction in abdominal distension with resolving ileus.
   - SBT, extubate when able
   # [**Last Name (un) **]: Likely secondary to hypotension in the setting of sepsis
 ATN;
   may be in diuresis phase now, given large volume urine output over past
   24 hrs. AIN also possible given extensive exposure to
   medications/antibiotics, although urine eo
s negative.
   - Can hold off on renal consult at this time. If BUN/creatinine start
   to rise again, will talk to renal tomorrow about potential
   dialysis/further tests
   - Aggressive fluid resuscitation
   - Follow UOP > 30cc/hr
   - Dose Vancomycin by trough given rapidly changing Cr
   - [**Hospital1 7**] lytes
   # Stupor: Given little focality on exam seems likely metabolic/toxic,
   potentially [**2-1**] uremia, despite not dramatically elevated BUN. Other
   contributors are infection, lingering sedative medications, and
   concussion. If dialysis ends up being performed soon, then may wait to
   see if resolution of uremia improves mental status. Otherwise need to
   be sensitive to CNS infection or re-bleed.
   - Check benzo tox in urine to see if cleared
   - Follow neurologic exam
   # Atrial flutter: Not adequately rate controlled on diltiazem. Known to
   be difficult to rate control in past.
   - Change to esmolol gtt
   - Consider EP input, given patient
s known difficulty with HR. Off
   coumadin for one month. Poor rate control when febrile/sedation
   decreased.
   - Restart sotalol when taking POs
   - Restart coumadin in one month
   - Cardiology follow-up
   # Rash: Concerning for drug rash, although offending [**Doctor Last Name **] unclear.
   Responded well to IV benadryl x 1
   - Monitor skin exam
   # Skull fracture
   - Cipro and dex ear drops per ENT - check duration
   - F/u with ENT
   # SAH/SDH. Needs follow up CT and Neurosurgery appointment in one month
   # COPD: Not convincing COPD flare, but still some wheeze and benefit
   from nebs.
   - Continue albuterol and ipratropium for now
   # Nutrition: Will provide nutrients through IV, given resolving ileus
   - NPO
   # Withdrawal: Now beyond duration during which withdrawal would be
   expected. Holding benzos or other sedatives given stupor.
   - SW / advice about rehabilitation when acute issues resolved
   # Diabetes
   - ISS
   - Glipizide held
   # Electrolytes
   -          Stop Ca, Mg, K Phos sliding scales given renal failure
   # Proph: Pantoprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-02 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2129-2-1**] 11:21 AM
   one blood culture from triple lumen line
   [**2-1**]:
   - Unresponsive to verbal/painful stimuli in morning, CT showing
   evolving contusion but no new hemorrhage
   - Started on neo to maintain MAP > 70; mental status improved to
   partially opening eyes to name, possibly tracking with eyes across room
   - Plan to do EEG to r/o seizure activity tomorrow
   - Gave D5W for hypernatremia
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-31**] 02:06 PM
   Cefipime - [**2129-2-1**] 10:02 AM
   Ciprofloxacin - [**2129-2-1**] 10:55 AM
   Vancomycin - [**2129-2-1**] 08:30 PM
   Infusions:
   Esmolol - 100 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-2**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 116 (104 - 129) bpm
   BP: 101/73(85) {60/54(57) - 157/105(125)} mmHg
   RR: 20 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
    CVP: 278 (8 - 283)mmHg
   Total In:
                                                                  4,830 mL
                                                                  1,513 mL
   PO:
   TF:
                                                                     51 mL
                                                                    132 mL
   IVF:
                                                                  4,779 mL
                                                                  1,381 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                    840 mL
   Urine:
                                                                  2,090 mL
                                                                    840 mL
   NG:
                                                                    850 mL
   Stool:
   Drains:
   Balance:
                                                                  1,860 mL
                                                                    673 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 508 (508 - 652) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.36/45/101/24/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   407 K/uL
   8.0 g/dL
   225 mg/dL
   2.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   50 mg/dL
   117 mEq/L
   149 mEq/L
   25.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2129-2-1**]  03:25 AM
                             [**2129-2-1**]  03:42 AM
                             [**2129-2-1**]  07:58 AM
                             [**2129-2-1**]  10:02 AM
                             [**2129-2-1**]  02:11 PM
                             [**2129-2-1**]  02:22 PM
                             [**2129-2-1**]  06:15 PM
                             [**2129-2-1**]  08:10 PM
                             [**2129-2-2**]  02:40 AM
                             [**2129-2-2**]  03:01 AM
   WBC
   11.3
   10.1
   Hct
   26.6
   25.6
   Plt
   352
   407
   Cr
   2.9
   2.7
   2.7
   2.6
   TCO2
   29
   23
   23
   24
   23
   26
   Glucose
   169
   214
   208
   225
   Other labs: PT / PTT / INR:13.6/24.4/1.2, ALT / AST:14/21, Alk Phos / T
   Bili:60/0.4, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Imaging: [**2-1**] CT head:
   1. Evolving frontotemporal concussions.
   2. Residual IVH. No new hemorrhage.
   3. Nondisplaced left temporal bone fracture.
   Microbiology: [**1-30**]: CDiff negative, Ucx negative
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Assessment and Plan
   Mr [**Known lastname 12875**] is a 68 yo M s/p fall while EtOH intox > skull #, SAH, SDH.
   Active issues: PNA resolving, HTN, withdrawal, ileus.
   Although presenting with head injury c/b SAH and SDH, his admission has
   been complicated by an ileus, worsening renal failure and stupor.
   # Altered Mental status: Less responsive to verbal and painful stimuli
   today. BP
s down from yesterday. CT unrevealing for new pathology.
   Given phenylephrine this morning to raise BP
s. Since then, has been
   slightly more responsive, now partially opening eyes to verbal and
   painful stimuli, possibly also tracking voices.  Previously had
   considered metabolic (e.g. uremic) etiology, but BUN increased for past
   several days. Has by now cleared etoh and benzos.
   - serial neuro exams
   - f/u final head CT read
   - trend BUN/creat
   - avoid sedating meds
   # Ileus: Continues to have flatus, stool, bowel sounds. Abd still
   somewhat distended. Unclear etiology. Likely secondary to medications
   in the first instance, along with immobility. Continuing supportive
   measures as per SBO: Fluids, NPO, gentle suction to OG tube. GI has
   signed off.
   - Serial abdominal exam
   - Repeat KUB PRN
   - Monitor bowel output
   # Positive Blood Culture/Fever/Leukocytosis: Known MRSA in sputum and
   coag negative staph in blood ([**1-26**]). Other/subsequent culture data
   unrevealing thus far. On vancomycin, cipro, cefepime, but withdrawing
   cipro and cefepime given ID recs and possible drug rash to cefepime
   (given PCN allergy).
   - Re-culture for spiking temps
   - F/u outstanding cultures
   # Respiratory Failure: PEEP currently at 10 as above, after 8
   overnight.. Abdominal distension obviously has effect on respiratory
   mechanics. Changed to pressure support this morning.
   - Continue antibiotics as above
   - Expect reduction in abdominal distension with resolving ileus.
   - SBT, extubate when able
   # [**Last Name (un) **]: Likely secondary to hypotension in the setting of sepsis
 ATN;
   likely experienced diuresis  for past 1-2 days. Creatinine continuing
   to trend down. Urine eo
s negative.
   - Continue to monitor BUN/creatinine.
   - Consider renal consult if BUN/creatinine start to rise again, for
   further testing or HD
   - Aggressive fluid resuscitation PRN
   - Follow UOP > 30cc/hr
   - Dose Vancomycin by trough given rapidly changing Cr
   - [**Hospital1 7**] lytes
   # Atrial flutter: Rate control somewhat improved on esmolol gtt,
   although later hypotensive, as above. Known to be difficult to rate
   control in past.
   - C/w esmolol gtt when BP tolerates
   - Restart sotalol when taking POs
   - Restart coumadin in one month
   - Cardiology follow-up
   # Rash: Concerning for drug rash, possibly [**2-1**] cefepime, given PCN
   allergy.
   - d/c cefepime, as above
   - Monitor skin exam
   # Skull fracture: Course of cipro/dexamethasone ear drops now complete
   # SAH/SDH: CT today unrevealing for worsening or new fractures
   # COPD: Not convincing COPD flare, but still some wheeze and benefit
   from nebs.
   - Continue albuterol and ipratropium for now
   # Nutrition: Will provide nutrients through IV, given resolving ileus
   - re-consult nutrition for re-starting tube feeds, as ileus resolves
   - NPO
   # Withdrawal: Now beyond duration during which withdrawal would be
   expected. Holding benzos or other sedatives given stupor.
   # SW / advice about rehabilitation when acute issues resolved
   # Diabetes
   - ISS
   - Glipizide held
   # Electrolytes
   -Repleting Ca, Mg, K Phos cautiously, given renal failure
   # Proph: Pantoprazole, pneumoboots
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2129-2-1**] 06:53 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-03 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2129-2-2**] 09:09 AM
 LUMBAR PUNCTURE - At [**2129-2-2**] 06:54 PM
 LUMBAR PUNCTURE - At [**2129-2-2**] 07:09 PM
   [**2-2**]:
   - Neurosurg: no structural reason for AMS, consider MRI/MRA
   - MRI/MRA read:
   - Neuro: Rec'd LP --> prelim fluid WNL, pending cultures; also ordered
   B12, folate, TSH, free T4, RPR
   - EEG: pending
   - Sodium trended 149 --> 144
   - Started standing lactulose, senna/colace
   - Started digoxin for AF, weaning Esmolol; needed Neo for SBP70-80s
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Metronidazole - [**2129-1-31**] 02:06 PM
   Cefipime - [**2129-2-1**] 10:02 AM
   Ciprofloxacin - [**2129-2-1**] 10:55 AM
   Vancomycin - [**2129-2-2**] 08:30 PM
   Infusions:
   Esmolol - 125 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-2-2**] 12:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-3**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 110 (108 - 120) bpm
   BP: 148/78(99) {65/42(49) - 165/107(120)} mmHg
   RR: 18 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
    CVP: 298 (12 - 321)mmHg
   Total In:
                                                                  6,088 mL
                                                                  1,007 mL
   PO:
   TF:
                                                                    452 mL
   IVF:
                                                                  5,576 mL
                                                                  1,007 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    960 mL
   Urine:
                                                                  2,300 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,788 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 403 (403 - 612) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.37/46/116/25/1
   Ve: 10.5 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   530 K/uL
   8.5 g/dL
   175 mg/dL
   2.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   39 mg/dL
   116 mEq/L
   147 mEq/L
   26.7 %
   12.9 K/uL
        [image002.jpg]
                             [**2129-2-1**]  06:15 PM
                             [**2129-2-1**]  08:10 PM
                             [**2129-2-2**]  02:40 AM
                             [**2129-2-2**]  03:01 AM
                             [**2129-2-2**]  08:33 AM
                             [**2129-2-2**]  02:09 PM
                             [**2129-2-2**]  04:17 PM
                             [**2129-2-3**]  01:37 AM
                             [**2129-2-3**]  02:37 AM
                             [**2129-2-3**]  02:55 AM
   WBC
   10.1
   12.9
   Hct
   25.6
   26.7
   Plt
   407
   530
   Cr
   2.7
   2.6
   2.3
   2.2
   TCO2
   23
   26
   25
   25
   30
   28
   Glucose
   [**Telephone/Fax (3) 13050**]75
   Other labs: PT / PTT / INR:14.0/22.6/1.2, ALT / AST:14/21, Alk Phos / T
   Bili:60/0.4, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   68M s/p fall while EtOH intoxicated leading to skull fracture with SAH,
   SDH. His admission has been complicated by an ileus, acute on chronic
   renal failure, respiratory distress, atrial flutter and atrial fib, and
   stupor.
   # Altered Mental status: MS changes somewhat waxing/[**Doctor Last Name 533**] in nature,
   hard to attribute to uremia or hepatic encephalopathy; to EtOH or
   withdrawal (all clear of system now). Could be multifocal (TBI +
   hypernatremia +/- hepatic encephalopathy.)
   - Touch base with neurosurg: Expected course given his head injuries?
   - Touch base with neuro: EEG read, would he be someone to put on
   Keppra?
   - Start Lactulose
   - f/u final head CT read
   - trend BUN/creat
   - avoid sedating meds
   - continue D5W for hyperNa+
   # Hypernatremia: Do not bring down precipitately.
   -          30 cc free H2O q6, and D5W
   -          Target 144 Na+
   -          For hypotension: Use neo instead of LR boluses
   # A Fib/Flutter: Rate control never achieved fully on esmolol gtt, has
   brief hypotensive spells. Known to be difficult to rate control in
   past.
   - Digoxin
   - Esmolol gtt when BP tolerates
   - Add Neo for hypotensive events
   - Restart coumadin in one month
   # Respiratory Failure: Abdominal distension has effect on respiratory
   mechanics. Not convincing COPD flare, but still some wheeze and benefit
   from nebs. Has been intubated 11 days now.
   - Consider trach for better suctioning
   - Continue albuterol and ipratropium
   - Continue antibiotics as above
   - Expect reduction in abdominal distension with resolving ileus.
   - SBT, extubate when able
   # [**Last Name (un) **]: Likely secondary to hypotension in the setting of sepsis
 ATN;
   likely experienced diuresis  for past 1-2 days. Creatinine continuing
   to trend down. Urine eo
s negative.
   - Continue to monitor BUN/creatinine.
   - Consider renal consult if BUN/creatinine start to rise again, for
   further testing or HD
   - Aggressive fluid resuscitation PRN
   - Follow UOP > 30cc/hr
   - Dose Vancomycin by trough given rapidly changing Cr
   - [**Hospital1 7**] lytes
   # Rash: Was concerning for drug rash, possibly [**2-1**] cefepime, given PCN
   allergy. Cefepime has been d/c
d, rash resolved.
   # Skull fracture: Course of cipro/dexamethasone ear drops now complete
   # SAH/SDH: CT unrevealing for worsening or new fractures. Neurosurg to
   see.
   # Ileus: Resolving, continues to have flatus, stool, bowel sounds.
   Getting tube feeds. Abd still somewhat distended. Unclear etiology.
   Likely secondary to medications in the first instance, along with
   immobility. Continuing supportive measures as per SBO: Fluids, NPO,
   gentle suction to OG tube. GI has signed off.
   - Serial abdominal exam
   - Repeat KUB PRN
   - Monitor bowel output
   # Positive Blood Culture/Fever/Leukocytosis: Resolving. MRSA in sputum
   and coag- staph in blood ([**1-26**]). Other/subsequent culture data
   unrevealing thus far.
   - Continue Vanc
   - Re-culture for spiking temps
   - F/u outstanding cultures
   # Nutrition: Getting tube feeds now
    # EtOH: Now beyond duration during which withdrawal expected. Holding
   benzos or other sedatives. Getting Thiamine/Folate.
    - SW / advice about rehabilitation when acute issues resolved
   # Diabetes
   - ISS
   - Glipizide held
   # FEN: Tube feeds. Repleting Ca, Mg, K Phos cautiously, given renal
   failure
   # Proph: Pantoprazole, pneumoboots
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-04 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - reloaded w/Dig, dig level 1.1, though need to check another tomorrow
   - GI c/s: Get MR Enterography and MRA at same time (they have discussed
   protocol with [**First Name8 (NamePattern2) 13070**] [**Last Name (NamePattern1) 803**] of rads) to eval for ischemia; get gensurg;
   consider stop Dilt as constipating.
   - [**Doctor First Name **] re KUB: No SBO. Ileus w/5 cm dilation, gas in colon. After
   reviewing labs, prior imaging, they feel MRIs ordered excessive,
   unlikely he has mes ischemia. Continue NG to sx. Note he would be poor
   op candidate.
   - Neuro recs: Check ammonia level (it's 9), no Keppra.
   - 24-hour EEG ordered
   - Nsurg recs: MRI c/w cerebral contusions course, does not explain
   altered MS, they sign off.
   - Curbsided Cards for AF:  No other recommendations for controlling AF
   other than cardioversion.  Could try verapamil (strongest CCB) but
   didn't given ileus and concern for ischemia.
   - PM lytes: continued hyperNa+, getting D5W
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Cefipime - [**2129-2-1**] 10:02 AM
   Ciprofloxacin - [**2129-2-1**] 10:55 AM
   Vancomycin - [**2129-2-3**] 08:45 PM
   Infusions:
   Phenylephrine - 0.2 mcg/Kg/min
   Esmolol - 100 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-2-3**] 11:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-4**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.2
   HR: 96 (75 - 137) bpm
   BP: 134/74(92) {49/43(52) - 151/87(105)} mmHg
   RR: 25 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
    CVP: 96 (95 - 273)mmHg
   Total In:
                                                                  4,073 mL
                                                                  1,086 mL
   PO:
   TF:
   IVF:
                                                                  4,073 mL
                                                                  1,086 mL
   Blood products:
   Total out:
                                                                  4,050 mL
                                                                  1,295 mL
   Urine:
                                                                  2,850 mL
                                                                    645 mL
   NG:
                                                                  1,200 mL
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 528 (125 - 528) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.36/49/89.[**Numeric Identifier 126**]/26/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended, Hypoactive bowel sounds
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   481 K/uL
   7.8 g/dL
   187 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.2 mEq/L
   35 mg/dL
   114 mEq/L
   145 mEq/L
   24.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2129-2-2**]  02:09 PM
                             [**2129-2-2**]  04:17 PM
                             [**2129-2-3**]  01:37 AM
                             [**2129-2-3**]  02:37 AM
                             [**2129-2-3**]  02:55 AM
                             [**2129-2-3**]  07:48 AM
                             [**2129-2-3**]  09:49 AM
                             [**2129-2-3**]  03:40 PM
                             [**2129-2-4**]  03:04 AM
                             [**2129-2-4**]  03:41 AM
   WBC
   12.9
   13.1
   Hct
   26.7
   24.2
   Plt
   530
   481
   Cr
   2.3
   2.2
   2.2
   2.2
   TCO2
   25
   30
   28
   25
   26
   29
   Glucose
   [**Telephone/Fax (3) 13071**]87
   Other labs: PT / PTT / INR:14.6/23.3/1.3, ALT / AST:14/21, Alk Phos / T
   Bili:60/0.4, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Imaging: [**2-3**] CXR: As compared to the previous radiograph, the
   monitoring and support
   devices are in unchanged position. The pre-existing left pleural
   effusion
   could have minimally increased. On the right, the pre-existing pleural
   effusion is apparently unchanged, but an exact quantification is not
   possible
   because the left sinus is not included in the image. Moderate
   cardiomegaly,
   minimal pulmonary edema. No focal parenchymal opacities suggesting
   pneumonia.
   [**2-3**] MRI/MRA Brain: 1. Post-traumatic changes with a right
   frontotemporal contusion, demonstrating expected evolution since the
   prior study. Areas of subdural and subarachnoid hemorrhage also
   demonstrate expected evolution. No new
   hemorrhage is identified.
   2. Normal MRA of the head, without evidence of hemodynamically
   significant stenosis, dissection, or aneurysm.
   Microbiology: [**2-2**] CSF: GRAM STAIN (Final [**2129-2-2**]):
         NO PMNS OR MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):
      ACID FAST CULTURE (Preliminary):
      VIRAL CULTURE (Preliminary):
   [**2-1**], [**2-2**], [**2-3**] BCx: Pending
   [**2-2**] RPR: Negative
   Assessment and Plan
   68M s/p fall with EtOH onboard leading to skull fracture, SAH, SDH.
   Admission c/b intermittent ileus, acute on chronic renal failure,
   respiratory distress, atrial flutter and atrial fib, and altered mental
   status.
   # Altered Mental status: MS [**First Name (Titles) 899**] [**Last Name (Titles) 13059**]/[**Doctor Last Name 533**]. Likely
   multifactorial (TBI + hypernatremia +/- hepatic encephalopathy.) Per
   neurosurg his head injuries alone should be resolving. His LP,
   additional labs and MRI were unrevealing. On lactulose.
   - trend BUN/creat
   - avoid sedating meds
   - continue D5W for hyperNa+
   # Hypernatremia: Was at 144, D5w was stopped, crept back to 147.
   -          D5W
   -          Target 144 Na+
   -          For hypotension: Use neo instead of LR boluses
   # Ileus: Has returned, patient no longer stooling, belly distended.
   - KUB
   - NPO, gentle suction to OG tube.
   - Serial abdominal exam
   - GI consult
   - Monitor bowel output
   # A Fib/Flutter: Rate control never achieved on esmolol, has brief
   hypotensive spells. Known to be difficult to rate control in past.
   - Digoxin on board
   - Esmolol gtt when BP tolerates
   - Add Neo for hypotensive events
   - Restart coumadin in one month
   # Respiratory Failure: Abdominal distension has effect on respiratory
   mechanics. Still some wheeze and benefit from nebs. Has been intubated
   12 days now. [**Month (only) 51**] do better if we can resolve ileus. Could be extubated
   if awake enough to protect airway.
   - Consider trach for better suctioning
   - Continue albuterol and ipratropium
   - Continue antibiotics as above
   - SBT, extubate when able
   # [**Last Name (un) **]: Likely secondary to hypotension in the setting of sepsis
 ATN;
   likely experienced diuresis for past 1-2 days. Creatinine continuing to
   trend down. Urine eo
s negative.
   - Continue to monitor BUN/creatinine.
   - Consider renal consult if BUN/creatinine start to rise again, for
   further testing or HD
   - Aggressive fluid resuscitation PRN
   - Follow UOP > 30cc/hr
   - Dose Vancomycin by trough given rapidly changing Cr
   - [**Hospital1 7**] lytes
   # Rash: Was concerning for drug rash, possibly [**2-1**] cefepime, given PCN
   allergy. Cefepime has been d/c
d, rash resolved.
   # Skull fracture: Course of cipro/dexamethasone ear drops now complete
   # SAH/SDH: CT unrevealing for worsening or new fractures. Neurosurg to
   see.
   # Positive Blood Culture/Fever/Leukocytosis: Resolving. MRSA in sputum
   and coag- staph in blood ([**1-26**]). Other/subsequent culture data
   unrevealing thus far.
   - Continue Vanc
   - Re-culture for spiking temps
   - F/u outstanding cultures
    # EtOH: Now beyond duration during which withdrawal expected. Holding
   benzos or other sedatives. Getting Thiamine/Folate.
    - SW / advice about rehabilitation when acute issues resolved
   # Diabetes
   - ISS
   - Glipizide held
   # FEN: Tube feeds turned off now. Repleting Ca, Mg, K Phos cautiously,
   given renal failure
   # Proph: Pantoprazole, pneumoboots
   # Access: Triple lumen, right radial line
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-05 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2129-2-4**] 02:01 PM
   abd
   - reloaded w/Dig, dig level 1.1, though need to check another tomorrow
   - GI c/s: Get MR Enterography and MRA at same time (they have discussed
   protocol with [**First Name8 (NamePattern2) 13070**] [**Last Name (NamePattern1) 803**] of rads) to eval for ischemia; get gensurg;
   consider stop Dilt as constipating.
   - [**Doctor First Name **] re KUB: No SBO. Ileus w/5 cm dilation, gas in colon. After
   reviewing labs, prior imaging, they feel MRIs ordered excessive,
   unlikely he has mes ischemia. Continue NG to sx. Note he would be poor
   op candidate.
   - Neuro recs: Check ammonia level (it's 9), no Keppra.
   - 24-hour EEG ordered
   - Nsurg recs: MRI c/w cerebral contusions course, does not explain
   altered MS, they sign off.
   - Curbsided Cards for AF:  No other recommendations for controlling AF
   other than cardioversion.  Could try verapamil (strongest CCB) but
   didn't given ileus and concern for ischemia.
   - PM lytes: continued hyperNa+, getting D5W
   - Dialed Esmolol up to 200 mcg, better HR and BP control
   [**2-4**]:
   - MRI/MRA Abdomen: Prox small bowel distension to 5.7 cm but no clear
   transition point; sigmoid diverticulosis; aperistaltic small bowel; no
   proximal vessel filling defects, but cannot rule out distal
   - started daily digoxin 0.125 IV
   - 24 hr EEG not hooked up, will likely happen some time this weekend
   - lactulose d/c'd
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-4**] 08:00 PM
   Infusions:
   Esmolol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-5**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 78 (76 - 145) bpm
   BP: 101/51(64) {75/43(54) - 178/87(254)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  2,492 mL
                                                                    644 mL
   PO:
             TF:
   IVF:
                                                                  2,492 mL
                                                                    644 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  1,500 mL
   Urine:
                                                                  2,060 mL
                                                                    500 mL
   NG:
                                                                    650 mL
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                   -218 mL
                                                                   -856 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 448 (434 - 460) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.33/55/109/28/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   417 K/uL
   7.5 g/dL
   136 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.1 mEq/L
   33 mg/dL
   112 mEq/L
   146 mEq/L
   23.3 %
   12.4 K/uL
        [image002.jpg]
                             [**2129-2-3**]  02:55 AM
                             [**2129-2-3**]  07:48 AM
                             [**2129-2-3**]  09:49 AM
                             [**2129-2-3**]  03:40 PM
                             [**2129-2-4**]  03:04 AM
                             [**2129-2-4**]  03:41 AM
                             [**2129-2-4**]  05:04 PM
                             [**2129-2-4**]  05:16 PM
                             [**2129-2-5**]  03:26 AM
                             [**2129-2-5**]  03:55 AM
   WBC
   13.1
   12.4
   Hct
   24.2
   23.3
   Plt
   481
   417
   Cr
   2.2
   2.2
   2.3
   2.1
   TCO2
   28
   25
   26
   29
   26
   30
   Glucose
   189
   187
   152
   136
   Other labs: PT / PTT / INR:13.3/23.6/1.1, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.4, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   68M s/p fall with EtOH onboard leading to skull fracture, SAH, SDH.
   Admission c/b intermittent ileus, acute on chronic renal failure,
   respiratory distress, atrial flutter and atrial fib, and altered mental
   status.
   # Altered Mental status: Continues to lack purposeful interaction off
   sedation, although is opening eyes more spontaneously today. Traumatic
   brain injury may be contributing factor, but subsequent head scans not
   showing any new acute processes, other than evolving
   contusion/hematoma. Mildly hypernatremic and BUN approaching normal.
   Bedside EEG unrevealing. Minimal response to lactulose (now withheld,
   given ongoing ileus).
   - trend BUN/creat, electrolyte abnormalities
   - avoid sedating meds
   - continue D5W for hyperNa+
   - 24 hour EEG
   .
   # Hypernatremia: Serum [Na+] 145 this morning, on D5W infusion.
   - Complete current D5W infusion, target 144
   - Check PM lytes
   .
   # Ileus: Some stool output today, abdomen mildly softer. Per GI, no
   intervention indicated at this time.
   - Mesenteric MRA today, to r/o ischemic bowel
   - NPO, c/w OG suction
   - Serial abdominal exam
   - Monitor stool output via flexiseal
   .
   # A Fib/Flutter: Loaded with Digoxin, also continues on esmolol gtt.
   Known to be difficult to rate control in past.
   - C/w daily IV Digoxin
   - Wean Esmolol gtt as tolerated
   - Add Neo for hypotensive events
   # Respiratory Failure: Respiratory status stable, with reasonable ABG
   on PSV. Known MRSA in sputum
   - Extubation trial after MRA today; if mental status inadequate
   following extubation, consider trach for better suctioning
   - Continue albuterol and ipratropium
   - Continue with  vanco
   # [**Last Name (un) **]: Creatinine improvement has plateaued at 2.2. [**Month (only) 51**] respresent new
   baseline following hypotensive episode/ATN.
   - Continue to monitor BUN/creatinine, UOP
   - Consider renal consult if BUN/creatinine start to rise again, for
   further testing or HD
   - Dose Vancomycin by trough given rapidly changing Cr
   # Rash: Was concerning for drug rash, possibly [**2-1**] cefepime, given PCN
   allergy. Cefepime has been d/c
d, rash resolved.
   # Skull fracture: Course of cipro/dexamethasone ear drops now complete
   # SAH/SDH: CT unrevealing for worsening or new fractures.
   # EtOH: Now beyond duration during which withdrawal expected. Holding
   benzos or other sedatives. Getting Thiamine/Folate.
    - SW / advice about rehabilitation when acute issues resolved
   # Diabetes: ISS; Glipizide held
   # FEN: Tube feeds turned off now. Will restart if ileus resolves.
   Alternatively will consider TPN
   # Proph: Pantoprazole, pneumoboots
   # Access: Triple lumen, right radial line
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-05 08:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Trauma - Subdural and subarachnoid bleed
   MRI/A
 small bowel distension
   AF
   ARF
   Resp failure
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2129-2-4**] 02:01 PM
   abd
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-4**] 08:00 PM
   Infusions:
   Esmolol - 25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-5**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 81 (76 - 145) bpm
   BP: 106/55(68) {75/43(54) - 178/87(254)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  2,492 mL
                                                                    673 mL
   PO:
             TF:
   IVF:
                                                                  2,492 mL
                                                                    673 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  1,500 mL
   Urine:
                                                                  2,060 mL
                                                                    500 mL
   NG:
                                                                    650 mL
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                   -218 mL
                                                                   -827 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 485 (434 - 485) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 5 cmH2O
   SpO2: 100%
   ABG: 7.33/55/109/28/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Intubated, awake, unresponsive
   Hrt irreg, tachy
   Lungs decreased
   Abd soft, hypoactive BS
   Extreme no edema
   Labs / Radiology
   7.5 g/dL
   417 K/uL
   136 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.1 mEq/L
   33 mg/dL
   112 mEq/L
   146 mEq/L
   23.3 %
   12.4 K/uL
        [image002.jpg]
                             [**2129-2-3**]  02:55 AM
                             [**2129-2-3**]  07:48 AM
                             [**2129-2-3**]  09:49 AM
                             [**2129-2-3**]  03:40 PM
                             [**2129-2-4**]  03:04 AM
                             [**2129-2-4**]  03:41 AM
                             [**2129-2-4**]  05:04 PM
                             [**2129-2-4**]  05:16 PM
                             [**2129-2-5**]  03:26 AM
                             [**2129-2-5**]  03:55 AM
   WBC
   13.1
   12.4
   Hct
   24.2
   23.3
   Plt
   481
   417
   Cr
   2.2
   2.2
   2.3
   2.1
   TCO2
   28
   25
   26
   29
   26
   30
   Glucose
   189
   187
   152
   136
   Other labs: PT / PTT / INR:13.3/23.6/1.1, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.4, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.7
   mg/dL
   CXR somewhat improved bibasilar infiltrates
   Assessment and Plan
   Altered mental status, unresponsiveness
 no signs of recovery,
   continue supportive care, EEG
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - stable
 ileus
 cont NG suction, will need TPN
 SUBDURAL HEMORRHAGE (SDH)
 avoid anticoagualation
 ATRIAL FIBRILLATION (AFIB)
 on esmolol and dig
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 cont vent support, mental
   status and O2 needs won
t permit extubation, likely trach this upcoming
   week
   ICU Care
   Nutrition: TPN to start
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   ICU
   Total time spent: 39

2129-02-05 13:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2129-2-4**] 02:01 PM
   abd
   - MRI/MRA abdomen: Proximal small bowel distension to 5.7cm but no
   clear transition point; sigmoid diverticulosis; aperistaltic small
   bowel; no proximal vessel filling defects, but cannot rule out distal
   - Started daily Digoxin 0.125mg IV
   - 24 hour EEG not hooked up secondary to patient being at MRI all
   afternoon - will likely happne some time this weekend
   - Lactulose discontinued
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-2-5**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-5**] 01:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.6
   HR: 116 (76 - 145) bpm
   BP: 120/68(81) {75/43(54) - 182/98(254)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  2,492 mL
                                                                    846 mL
   PO:
             TF:
   IVF:
                                                                  2,492 mL
                                                                    846 mL
   Blood products:
   Total out:
                                                                  2,710 mL
                                                                  2,115 mL
   Urine:
                                                                  2,060 mL
                                                                  1,115 mL
   NG:
                                                                    650 mL
                                                                  1,000 mL
   Stool:
                                                                     scant
                                                                     scant
   Drains:
   Balance:
                                                                   -218 mL
                                                                 -1,269 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 506 (448 - 506) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.33/55/109/28/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Softer
   and less distended than yesterday
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   417 K/uL
   7.5 g/dL
   136 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.1 mEq/L
   33 mg/dL
   112 mEq/L
   146 mEq/L
   23.3 %
   12.4 K/uL
        [image002.jpg]
   Blood cultures X3 NGTD
   RPR negative
   CSF cultures NGTD
                             [**2129-2-3**]  02:55 AM
                             [**2129-2-3**]  07:48 AM
                             [**2129-2-3**]  09:49 AM
                             [**2129-2-3**]  03:40 PM
                             [**2129-2-4**]  03:04 AM
                             [**2129-2-4**]  03:41 AM
                             [**2129-2-4**]  05:04 PM
                             [**2129-2-4**]  05:16 PM
                             [**2129-2-5**]  03:26 AM
                             [**2129-2-5**]  03:55 AM
   WBC
   13.1
   12.4
   Hct
   24.2
   23.3
   Plt
   481
   417
   Cr
   2.2
   2.2
   2.3
   2.1
   TCO2
   28
   25
   26
   29
   26
   30
   Glucose
   189
   187
   152
   136
   Other labs: PT / PTT / INR:13.3/23.6/1.1, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.4, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   68M s/p fall with EtOH onboard leading to skull fracture, SAH, SDH.
   Admission c/b intermittent ileus, acute on chronic renal failure,
   respiratory distress, atrial flutter and atrial fib, and altered mental
   status.
   # Altered Mental status: Continues to lack purposeful interaction off
   sedation, although is opening eyes more spontaneously today. Traumatic
   brain injury may be contributing factor, but subsequent head scans not
   showing any new acute processes, other than evolving
   contusion/hematoma. Mildly hypernatremic and BUN approaching normal.
   Lumbar puncture unrevealing. Minimal response to lactulose (now
   withheld, given ongoing ileus).
   - trend BUN/creat, electrolyte abnormalities
   - avoid sedating meds
   - continue D5W for hyperNa+
   - 24 hour EEG to be done over the weekend
   .
   # Hypernatremia: Serum [Na+] 146 this morning, on D5W infusion.
   - Complete current D5W infusion and monitor/trend serum sodium
   .
   # Ileus: Some stool output today, abdomen mildly softer. Per GI, no
   intervention indicated at this time. Mesenteric MRA not suggestive of
   ischemic bowel yesterday
   - NPO, c/w OG suction
 will start TPN today
   - Serial abdominal exam
   - Monitor stool output via flexiseal
   .
   # A Fib/Flutter: Loaded with Digoxin, also continues on esmolol gtt.
   Known to be difficult to rate control in past.
   - C/w daily IV Digoxin
   - Wean Esmolol gtt as tolerated
   - Add Neo for hypotensive events PRN (did not require any yesterday)
   # Respiratory Failure: Respiratory status stable, with reasonable ABG
   on PSV. Known MRSA in sputum
   - Given mental status, no plans for extubation today. If mental status
   improves over the weekend, could consider extubation but will likely be
   unable to maintain airway and clear secretions.
   - Will organize family meeting for Monday to discuss risk/benefits of
   tracheostomy placement for better suctioning
   - Continue albuterol and ipratropium
   - Continue with  vanco
   # [**Last Name (un) **]: Creatinine improvement has improved slightly, 2.1 today. [**Month (only) 51**]
   represent new baseline following hypotensive episode/ATN.
   - Continue to monitor BUN/creatinine, UOP
   - Consider renal consult if BUN/creatinine starts to rise again, for
   further testing or HD
   - Dose Vancomycin by trough given rapidly changing Cr
   # Rash: Was concerning for drug rash, possibly [**2-1**] cefepime, given PCN
   allergy. Cefepime has been d/c
d, rash resolved.
   # Skull fracture: Course of cipro/dexamethasone ear drops now complete
   # SAH/SDH: CT unrevealing for worsening or new fractures.
   # EtOH: Now beyond duration during which withdrawal expected. Holding
   benzos or other sedatives. Getting Thiamine/Folate.
    - SW / advice about rehabilitation when acute issues resolved
   # Diabetes: ISS; Glipizide held
   # FEN: Tube feeds turned off now. Will restart if ileus resolves.
   Starting TPN today.
   # Proph: Pantoprazole, pneumoboots
   # Access: Triple lumen, right radial line
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-06 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-4**]:
   - MRI/MRA Abdomen: Prox small bowel distension to 5.7 cm but no clear
   transition point; sigmoid diverticulosis; aperistaltic small bowel; no
   proximal vessel filling defects, but cannot rule out distal
   - started daily digoxin 0.125 IV
   - 24 hr EEG not hooked up, will likely happen some time this weekend
   - lactulose d/c'd
   [**2-5**]:
   - Surgery team signed off since no surgical abdomnial needs
   - Hypertensive today SBP170-180s, responded well to Labetalol IV
   - TPN started today: please add Thiamine and Folate for tomorrow
   - PEEP increased to [**5-9**]
   - 24 hr EEG started
   - Needs family meeting on Monday to discuss likely eventual trach
   - Na 148 --> restarted D5W for 1L, increased free water flushes with TF
   and got UA to evaluate for Diabetes Insipidus
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-4**] 08:00 PM
   Infusions:
   Esmolol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-2-5**] 12:00 PM
   Metoprolol - [**2129-2-5**] 04:00 PM
   Labetalol - [**2129-2-6**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-6**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 105 (81 - 117) bpm
   BP: 150/71(93) {106/55(68) - 186/98(124)} mmHg
   RR: 19 (11 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  1,529 mL
                                                                  1,053 mL
   PO:
             TF:
   IVF:
                                                                  1,300 mL
                                                                    746 mL
   Blood products:
   Total out:
                                                                  4,060 mL
                                                                    855 mL
   Urine:
                                                                  2,060 mL
                                                                    855 mL
   NG:
                                                                  2,000 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,531 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 361 (354 - 506) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.39/48/99.[**Numeric Identifier 508**]/26/2
   Ve: 8.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   374 K/uL
   7.4 g/dL
   257 mg/dL
   1.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   31 mg/dL
   111 mEq/L
   144 mEq/L
   22.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2129-2-3**]  03:40 PM
                             [**2129-2-4**]  03:04 AM
                             [**2129-2-4**]  03:41 AM
                             [**2129-2-4**]  05:04 PM
                             [**2129-2-4**]  05:16 PM
                             [**2129-2-5**]  03:26 AM
                             [**2129-2-5**]  03:55 AM
                             [**2129-2-5**]  05:51 PM
                             [**2129-2-6**]  03:48 AM
                             [**2129-2-6**]  06:03 AM
   WBC
   13.1
   12.4
   10.1
   Hct
   24.2
   23.3
   22.3
   Plt
   481
   417
   374
   Cr
   2.2
   2.2
   2.3
   2.1
   2.0
   1.9
   TCO2
   29
   26
   30
   30
   Glucose
   189
   187
   152
   136
   116
   257
   Other labs: PT / PTT / INR:13.5/23.8/1.2, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.4, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Assessment and Plan
   68M s/p fall with EtOH onboard leading to skull fracture, SAH, SDH.
   Admission c/b intermittent ileus, acute on chronic renal failure,
   respiratory distress, atrial flutter and atrial fib, and altered mental
   status.
   # Altered Mental status: Continues to lack purposeful interaction off
   sedation, although is opening eyes more spontaneously today. Traumatic
   brain injury may be contributing factor, but subsequent head scans not
   showing any new acute processes, other than evolving
   contusion/hematoma. Mildly hypernatremic and BUN approaching normal.
   Lumbar puncture unrevealing. Minimal response to lactulose (now
   withheld, given ongoing ileus).
   - trend BUN/creat, electrolyte abnormalities
   - avoid sedating meds
   - continue D5W for hyperNa+
   - 24 hour EEG to be done over the weekend
   .
   # Hypernatremia: Serum [Na+] 146 this morning, on D5W infusion.
   - Complete current D5W infusion and monitor/trend serum sodium
   .
   # Ileus: Some stool output today, abdomen mildly softer. Per GI, no
   intervention indicated at this time. Mesenteric MRA not suggestive of
   ischemic bowel yesterday
   - NPO, c/w OG suction
 will start TPN today
   - Serial abdominal exam
   - Monitor stool output via flexiseal
   .
   # A Fib/Flutter: Loaded with Digoxin, also continues on esmolol gtt.
   Known to be difficult to rate control in past.
   - C/w daily IV Digoxin
   - Wean Esmolol gtt as tolerated
   - Add Neo for hypotensive events PRN (did not require any yesterday)
   # Respiratory Failure: Respiratory status stable, with reasonable ABG
   on PSV. Known MRSA in sputum
   - Given mental status, no plans for extubation today. If mental status
   improves over the weekend, could consider extubation but will likely be
   unable to maintain airway and clear secretions.
   - Will organize family meeting for Monday to discuss risk/benefits of
   tracheostomy placement for better suctioning
   - Continue albuterol and ipratropium
   - Continue with  vanco
   # [**Last Name (un) **]: Creatinine improvement has improved slightly, 2.1 today. [**Month (only) 51**]
   represent new baseline following hypotensive episode/ATN.
   - Continue to monitor BUN/creatinine, UOP
   - Consider renal consult if BUN/creatinine starts to rise again, for
   further testing or HD
   - Dose Vancomycin by trough given rapidly changing Cr
   # Rash: Was concerning for drug rash, possibly [**2-1**] cefepime, given PCN
   allergy. Cefepime has been d/c
d, rash resolved.
   # Skull fracture: Course of cipro/dexamethasone ear drops now complete
   # SAH/SDH: CT unrevealing for worsening or new fractures.
   # EtOH: Now beyond duration during which withdrawal expected. Holding
   benzos or other sedatives. Getting Thiamine/Folate.
    - SW / advice about rehabilitation when acute issues resolved
   # Diabetes: ISS; Glipizide held
   # FEN: Tube feeds turned off now. Will restart if ileus resolves.
   Starting TPN today.
   # Proph: Pantoprazole, pneumoboots
   # Access: Triple lumen, right radial line
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   TPN without Lipids - [**2129-2-5**] 06:33 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-06 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    BP remains a problem
   24 Hour Events:
 EEG - At [**2129-2-5**] 12:02 PM
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-4**] 08:00 PM
   Infusions:
   Esmolol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-2-5**] 12:00 PM
   Metoprolol - [**2129-2-5**] 04:00 PM
   Labetalol - [**2129-2-6**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-6**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 91 (86 - 117) bpm
   BP: 140/62(81) {116/60(76) - 186/98(124)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  1,529 mL
                                                                  1,112 mL
   PO:
             TF:
   IVF:
                                                                  1,300 mL
                                                                    764 mL
   Blood products:
   Total out:
                                                                  4,060 mL
                                                                    855 mL
   Urine:
                                                                  2,060 mL
                                                                    855 mL
   NG:
                                                                  2,000 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,531 mL
                                                                    257 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 361 (354 - 506) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.39/48/99
   Ve: 8.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Eyes open, tracking with eyes, no purposeful movement
   EEG leads on scalp
   Neck supple
   Hrt irreg, tachy
   Lungs decreased, clear
   Abd distended, hypoactive
   Extreme no edema
   Labs / Radiology
   7.4 g/dL
   374 K/uL
   257 mg/dL
   1.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   31 mg/dL
   111 mEq/L
   144 mEq/L
   22.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2129-2-3**]  03:40 PM
                             [**2129-2-4**]  03:04 AM
                             [**2129-2-4**]  03:41 AM
                             [**2129-2-4**]  05:04 PM
                             [**2129-2-4**]  05:16 PM
                             [**2129-2-5**]  03:26 AM
                             [**2129-2-5**]  03:55 AM
                             [**2129-2-5**]  05:51 PM
                             [**2129-2-6**]  03:48 AM
                             [**2129-2-6**]  06:03 AM
   WBC
   13.1
   12.4
   10.1
   Hct
   24.2
   23.3
   22.3
   Plt
   481
   417
   374
   Cr
   2.2
   2.2
   2.3
   2.1
   2.0
   1.9
   TCO2
   29
   26
   30
   30
   Glucose
   189
   187
   152
   136
   116
   257
   Other labs: PT / PTT / INR:13.5/23.8/1.2, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.4, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   CXR stable left effusion and RLL infiltrate
   Assessment and Plan
   Altered mental status, unresponsiveness
 mental status improved,
   continue supportive care, EEG ongoing
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 slowly improving
 ileus
 cont NG suction, bowel sounds improved, TPN started
 SUBDURAL HEMORRHAGE (SDH)
 avoid anticoagualation
 ATRIAL FIBRILLATION (AFIB)
 on esmolol gtt and dig, will discuss
   long term plan with EP tomorrow
   Hypertension
 continue labetolol
 RESPIRATORY FAILURE
 cont vent support, may try extubation today
   Pneumonia
 complete vanco 14d course
   ICU Care
   Nutrition:
   TPN without Lipids - [**2129-2-5**] 06:33 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   ICU
   Total time spent:   39

2129-02-07 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2129-2-6**] 04:45 PM
 FEVER - 101.2
F - [**2129-2-6**] 12:00 PM
   - much more awake and responsive today, looking at us, no hand squeeze
   though
   - sodium....
   - EEG...
   - extubated
   - OG tube placed, confirmed by CXR
   - Labetolol 200 mg PO BID
   - Esmolol dialed up at midnight, Labetolol IV boluses for hypertension
   and tachycardia
   - Nifedepine CR 10 mg PO Q8 also added (cannot have Nifedipine CR 90 mg
   from home med list b/c cannot be crushed; others not added yet, discuss
   in AM)
   - K+ sliding scale
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-4**] 08:00 PM
   Infusions:
   Esmolol - 100 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-2-6**] 08:00 AM
   Labetalol - [**2129-2-7**] 01:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-7**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.8
   HR: 91 (84 - 115) bpm
   BP: 132/56(75) {123/55(75) - 178/84(111)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  3,009 mL
                                                                  1,854 mL
   PO:
             TF:
             176 mL
   IVF:
                                                                  1,354 mL
                                                                    754 mL
   Blood products:
   Total out:
                                                                  4,435 mL
                                                                    910 mL
   Urine:
                                                                  3,160 mL
                                                                    910 mL
   NG:
                                                                    175 mL
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                 -1,426 mL
                                                                    944 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 539 (539 - 843) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.42/43/84.[**Numeric Identifier 1000**]/27/2
   Ve: 10.6 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Abdomen; Remains softly distended but +BS and mildly stooling
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   339 K/uL
   7.1 g/dL
   227 mg/dL
   1.5 mg/dL
   27 mEq/L
   4.0 mEq/L
   29 mg/dL
   112 mEq/L
   144 mEq/L
   22.4 %
   11.3 K/uL
        [image002.jpg]
   BCx [**2-3**]: NGTD
                             [**2129-2-5**]  05:51 PM
                             [**2129-2-6**]  03:48 AM
                             [**2129-2-6**]  06:03 AM
                             [**2129-2-6**]  04:17 PM
                             [**2129-2-6**]  04:27 PM
                             [**2129-2-6**]  09:16 PM
                             [**2129-2-7**]  01:01 AM
                             [**2129-2-7**]  03:19 AM
                             [**2129-2-7**]  03:28 AM
                             [**2129-2-7**]  05:09 AM
   WBC
   10.1
   11.3
   Hct
   22.3
   22.4
   Plt
   374
   339
   Cr
   2.0
   1.9
   1.8
   1.5
   TCO2
   30
   32
   29
   28
   28
   29
   Glucose
   116
   257
   192
   227
   Other labs: PT / PTT / INR:13.1/23.6/1.1, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.4, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, LDH:233 IU/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   68M s/p fall with EtOH onboard leading to skull fracture, SAH, SDH.
   Admission c/b intermittent ileus, acute on chronic renal failure,
   respiratory distress, atrial flutter and atrial fib, and altered mental
   status.
   # Altered Mental status: Seems more alert, eyes open, tracking, trying
   to speak
   - f/u 24 hour EEG (completed yesterday at noon)
   .
   # Hypernatremia: Serum [Na+] 146
 144
   -  Continue with free water PO and flushes with tube feeds
   - check PM lytes.
   - Note urine osmolality not c/w DI
   # Ileus: Good stool output, ileus resolving. Just written for tubefeeds
   but can start to take occasional gentle PO
   - Continue tube feeds
 when mental status improved, will order
   speech/swallow evaluation and advance diet as tolerated
   - Serial abdominal exam
   # A Fib/Flutter: Loaded with Digoxin, also continues on esmolol gtt.
   Known to be difficult to rate control in past.
   - C/w daily PO Digoxin
   - Discontinue Esmolol gtt today
   # Hypertension:
   - Continue Labetalol PO and will increase to TID today if becomes more
   hypertensive with Esmolol off
   - Continue Nifedipine PO
   # Respiratory Failure: Respiratory status stable, with reasonable ABGs
   now extubated
   - Will organize family meeting for Monday to discuss chronic care
   issues
   - Continue albuterol and ipratropium
   - Continue with  vanco, day [**11-13**]
   # [**Last Name (un) **]: Creatinine improvement continuing
   - Continue to monitor BUN/creatinine, UOP
   - Dose Vancomycin by trough
   # Rash: Cefepime has been d/c
d, rash resolved.
   # Skull fracture: Course of cipro/dexamethasone ear drops now complete
   # SAH/SDH: CT unrevealing for worsening or new fractures.
   # EtOH: Now beyond duration during which withdrawal expected. Holding
   benzos or other sedatives. Getting Thiamine/Folate.
    - SW / advice about rehabilitation when acute issues resolved
   # Diabetes: ISS; Glipizide held
   # FEN: Tube feeds now
   # Proph: Pantoprazole, pneumoboots
   # Access: Triple lumen, right radial line
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
 will discuss with Case Management re: screening for
   Rehab
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2129-2-6**] 05:33 PM 42 mL/hour
   Peptamen 1.5 (Full) - [**2129-2-7**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-02-08 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2129-2-7**] 01:52 PM
 BLOOD CULTURED - At [**2129-2-7**] 01:52 PM
 URINE CULTURE - At [**2129-2-7**] 01:52 PM
   - Peripheral smear/haptoglobin sent for steady Hct downward drift:
   haptoglobin high; smear pending
   - LFT's normal
   - LENIs revealed DVT. Started on heparin gtt (no bolus), with neurosurg
   approval. Should stop heparin gtt immediately if any new neuro findings
   on exam
   - Dobhoff will be placed in AM
   - vanco increased to 1 gram Q24
   - Increased standing labetalol to 400 mg PO/NG TID
   - Gave labetalol IV boluses for tachycardia/hypertension, with varying
   success
   - D/c'd nifedipine immediate release; can cause variety of cardiac
   adverse events
   - Added glargine for long-acting coverage to start with breakfast
   tomorrow
   Patient unable to provide history: Answering with one word answers
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-7**] 08:30 PM
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Heparin Sodium - [**2129-2-8**] 01:13 AM
   Labetalol - [**2129-2-8**] 03:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-8**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 35.7
C (96.2
   HR: 110 (84 - 118) bpm
   BP: 147/71(92) {122/61(78) - 168/81(105)} mmHg
   RR: 24 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  4,161 mL
                                                                    678 mL
   PO:
             TF:
                                                                    901 mL
                                                                    357 mL
   IVF:
                                                                  1,545 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    880 mL
   Urine:
                                                                  2,555 mL
                                                                    580 mL
   NG:
   Stool:
                                                                    900 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                    706 mL
                                                                   -202 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.43/39/78.[**Numeric Identifier 181**]/26/1
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   330 K/uL
   6.8 g/dL
   177 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.9 mEq/L
   25 mg/dL
   113 mEq/L
   144 mEq/L
   21.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2129-2-6**]  04:27 PM
                             [**2129-2-6**]  09:16 PM
                             [**2129-2-7**]  01:01 AM
                             [**2129-2-7**]  03:19 AM
                             [**2129-2-7**]  03:28 AM
                             [**2129-2-7**]  05:09 AM
                             [**2129-2-7**]  11:43 AM
                             [**2129-2-7**]  01:59 PM
                             [**2129-2-8**]  03:13 AM
                             [**2129-2-8**]  05:32 AM
   WBC
   11.3
   9.4
   Hct
   22.4
   23.0
   21.2
   Plt
   339
   330
   Cr
   1.5
   1.5
   1.5
   TCO2
   32
   29
   28
   28
   29
   28
   27
   Glucose
   227
   187
   177
   Other labs: PT / PTT / INR:13.7/55.6/1.2, ALT / AST:[**11-14**], Alk Phos / T
   Bili:76/0.6, Amylase / Lipase:/25, Differential-Neuts:83.5 %, Band:0.0
   %, Lymph:8.8 %, Mono:6.3 %, Eos:1.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:233 IU/L, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.5
   mg/dL
   Imaging: [**2-7**] LENI's: Non-occlusive thrombus in the right common femoral
   vein extending
   into the proximal superficial femoral vein. The proximal extent of clot
   is
   not visualized on this study
   Microbiology: [**2-8**] C Diff Pending
   Other recent outstanding cultures: Negative or pending
   Assessment and Plan
   68M s/p fall with EtOH onboard leading to skull fracture, SAH, SDH.
   Admission c/b intermittent ileus, acute on chronic renal failure,
   respiratory distress, atrial flutter and atrial fib, and altered mental
   status.
   # Altered Mental status: Intermittently opens eyes and possibly answers
   yes/no questions. Waxing and [**Doctor Last Name 533**]. No focal signs.
   - f/u 24 hour EEG (completed yesterday at noon)
   - Avoid sedating meds
   - Check ABG this morning for acid/base abnormalities
   .
   # Ileus: Abdomen protruberant but not distended. Good stool output.
   Tolerating tube feeds
   - Continue tube feeds
   - Serial abdominal exam
   - KUB PRN if redistends
   # A Fib/Flutter: On digoxin and labetalol, nifedipine d/c
   Historically difficult to control, s/p ablation. Takes sotalol as
   outpatient
   - C/w daily Digoxin
   - verify therapeutic Dig levels
   - Increase labetalol to 600 mg TID
   - EP Consult today
   # Fevers: Daily low-grade fevers. Infectious workup unrevealing, aside
   from past MRSA in sputum. DVT may represent source
   - Will send C. diff given new stool output (low index of suspicion for
   infection)
   # DVT: On heparin gtt since yesterday. Non occluding thrombi per U/S
   report. [**Month (only) 51**] represent source of fevers.
   - c/w conservative heparin gtt for goal PTT 60-80, given recent ICH
   - serial neuro exams to detect early re-bleed
   - d/w neurosurg long-term oral anti-coagulation
   # Hypertension: On ACE/[**Last Name (un) **] as outpatient, these have been held for [**Last Name (un) **]
   during hospitalization. Given plateau in creatinine improvement, he may
   have new baseline and may warrant re-initiation of ACE/[**Last Name (un) **] therapy
   - Pending EP recs, start short acting captopril
   - Continue Labetalol as above
   # MRSA Pneumonia: On Day 12 of 14 day vanco course. Respiratory status
   stable.
   - Will organize family meeting for Monday to discuss chronic care
   issues
   - Continue albuterol and ipratropium
   - Continue with  vanco, day [**11-13**]
   - Follow periodic ABGs
   # AoCKI: Creatinine has plateaued at 1.5, with historical baseline of
   1.2. [**Month (only) 51**] represent new baseline. Good urine output
   - Continue to monitor BUN/creatinine, UOP
   - Dose Vancomycin by trough
   # Skull fracture/SAH/SDH: Course of cipro/dexamethasone ear drops now
   complete. CT unrevealing for worsening or new fractures.
   # EtOH: Holding benzos or other sedatives. Getting Thiamine/Folate.
    - SW / advice about rehabilitation when acute issues resolved
   # Diabetes: Added standing glargine to sliding scale for elevated
   fingersticks; Glipizide held
   # FEN: Tube feeds. Dobhoff to be placed today
   # Proph: Pantoprazole, heparin gtt
   # Access: Triple lumen, right radial line, PICC
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
 will discuss with Case Management re: screening for
   Rehab
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2129-2-8**] 05:37 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan.  68M with etoh,
   s/p fall with ICH, course c/b AMS, difficult to control a-fib, resp
   failure now extubated, low grade fevers. LENI with DVT, started on hep
   gtt. Continue titrating labetolol for improved heart rate control.
   100.8--> 96.2  100  135/71  24  98% NC
   somnolent, awake intermittently, not following commands
   scant basilar rales
   [**Last Name (un) **], tachy
   distended, + BS, soft and NT
   2+ edema
   7.43/39/79  wbc 9.4  hct 11.2  cr 1.5 inr 1.2
   cxr with new picc in position, l basilar atelectasis/sm eff, no sig
   change
   In a-fib/flutter. HR control remains suboptimal.  Will
   uptitrate labetolol, continuing dig, level pending, EP consulted for
   additional input.  BP control also remains suboptimal, consider
   resuming ace-i monitoriing renal function closely. His acute on CRI is
   improving, cr possibly at new baseline, urine outpt remains
   adequate.  Will adjust meds/ vanco dosing for improving GFR.  His MS
   remains altered--? delirium, neuro is following, eeg is pending, no
   evidence of new IC process on repeat imaging.   Will check abg to r/o
   CO2 retention/narcosis. He is on vanco day [**12-13**] for MRSA pna. He
   continues to have low grade fevers, no leukocytosis, ? [**2-1**] dvt.  Now on
   heparin.  Infection w/u has otherwise been unremarkable. Will send c
   diff given stool output. He is tolerating TFs well.    Follow abd
   exams, kubs for abd distention.  Continue glargine and SSI for improved
   BS control.  ICU: PPI, hep gtt, picc. PT following. Continue case
   management screening/ for rehab.
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2129-2-8**] 15:54 ------

2129-02-09 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2129-2-8**] 11:58 AM
 MULTI LUMEN - STOP [**2129-2-8**] 03:58 PM
 PICC LINE - START [**2129-2-8**] 04:11 PM
   - ABGs alkalotic, CT head for ?AMS - dictation: No new intracranial
   hemorrhage, redemonstration of bilateral frontal lobe hypodensities
   R>L, no midline shift or gyrus/sulci configuration change, no new
   infarcts, left temporal bone fx (old), evolving frontal contusion
   - EP recommending holding on Sotalol (risk for throwing thrombus with
   reversed INR and possible converting back to sinus on Sotalol).
   Discontinue digoxin given small LV (worse not better effect). Repeat
   ECHO given ?change in quality of pericardial effusion (blood?).
   - upped Labetolol from 400->800 TID
   - Wincing with left elbow/forearm mvmt - XRay: no acute fracture
   - EEG showed slow encephalopathic background throughout (meds vs.
   metabolic disturbances vs. infxn)
   - Lipase 100, stopped tube feeds (bowel rest) and started IV Dilaudid
   PRN pain
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-7**] 08:30 PM
   Infusions:
   Heparin Sodium - 2,600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-2-8**] 08:11 AM
   Labetalol - [**2129-2-8**] 08:00 PM
   Heparin Sodium - [**2129-2-8**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-9**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 108 (88 - 123) bpm
   BP: 153/78(100) {90/58(68) - 181/90(119)} mmHg
   RR: 26 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  3,063 mL
                                                                    444 mL
   PO:
             TF:
                                                                  1,169 mL
   IVF:
                                                                  1,014 mL
                                                                    244 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  2,955 mL
                                                                    280 mL
   Urine:
                                                                  2,205 mL
                                                                    280 mL
   NG:
   Stool:
                                                                    750 mL
   Drains:
   Balance:
                                                                    108 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.51/29/80.[**Numeric Identifier 176**]/24/0
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Diminished: bilateral bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+; LUE TTP in elbow region with ?exudate. No erythema/edema.
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   314 K/uL
   7.3 g/dL
   157 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   19 mg/dL
   113 mEq/L
   144 mEq/L
   22.1 %
   8.4 K/uL
        [image002.jpg]
   Cdiff negative
   Blood culture X3 NGTD
   Urine Cx X1 NGTD
   Cath tip LIJ NGTD
                             [**2129-2-7**]  01:59 PM
                             [**2129-2-8**]  03:13 AM
                             [**2129-2-8**]  05:32 AM
                             [**2129-2-8**]  11:45 AM
                             [**2129-2-8**]  03:39 PM
                             [**2129-2-8**]  03:50 PM
                             [**2129-2-8**]  05:32 PM
                             [**2129-2-8**]  09:18 PM
                             [**2129-2-8**]  09:21 PM
                             [**2129-2-9**]  03:45 AM
   WBC
   9.4
   9.0
   8.4
   Hct
   23.0
   21.2
   24.2
   23.4
   22.1
   Plt
   [**Telephone/Fax (3) 13173**]
   Cr
   1.5
   1.5
   1.5
   TCO2
   27
   26
   25
   25
   24
   Glucose
   187
   177
   157
   Other labs: PT / PTT / INR:13.8/52.5/1.2, ALT / AST:[**11-14**], Alk Phos / T
   Bili:76/0.6, Amylase / Lipase:68/100, Differential-Neuts:76.0 %,
   Band:0.0 %, Lymph:18.2 %, Mono:4.0 %, Eos:1.7 %, Lactic Acid:1.0
   mmol/L, Albumin:2.2 g/dL, LDH:233 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   68M s/p fall with EtOH onboard leading to skull fracture, SAH, SDH.
   Admission c/b intermittent ileus, acute on chronic renal failure,
   respiratory distress, atrial flutter and atrial fib, and altered mental
   status.
   # Altered Mental status: Seemed more alert on Monday
 much less
   interactive yesterday. Would open eyes and say
 only. EEG showed
   slow encephalopathy, no seizures. Repeat CT head showed no acute
   intracranial processes (hemorrhage, herniation, ischemia). ABGs showed
   respiratory alkalosis, ? due to CNS injury. Patient does have a
   tendency to wax and wane.
   - Continue to monitor
   - Work with PT as much as possible
   - Maintain sleep/wake cycle, manage symptoms (pain etc) to minimize ICU
   delirium
   .
   # Pain: Grimacing in pain yesterday, ?due to left arm. Left
   forearm/elbow films unrevealing. Lipase 100.
   - NPO now for bowel rest and re-evaluate later today
   - Pain control with low-dose IV dilaudid PRN
   - Continue bowel regimen in setting of resolving ileus to prevent
   worsening on narcotic pain medications
   - Given effusion in elbow region, will hold on ultrasound for DVT for
   now. Consult rheum for possible tap of fluid. Will hold on heparin gtt
   for now
   .
   # DVT: Right lower extremity
   - Continue heparin gtt with lower goal PTT 60-80 in setting of ICH
   - Repeat ECHO per Cardiology recommendations given change in
   pericardial effusion quality possibly concerning for bleeding into
   pericardium
   .
   # Hypernatremia: Serum [Na+] 146
 144. Essentially resolved.
   -  Continue with free water PO flushes
   # A Fib/Flutter: Appreciate Cardiology recommendations. Discontinued
   Digoxin, Esmolol gtt off X2 days now. Of note, heart rate improved with
   Tylenol for pain.
   - Continue Labetalol 800mg TID
   - Continue to hold Sotalol in setting of recent INR reversal and risk
   of thromboembolic event with cardioversion on Sotalol
   Loaded with Digoxin, also continues on esmolol gtt.  Known to be
   difficult to rate control in past.
   # Ileus: Good stool output, ileus resolving. Just written for tubefeeds
   but can start to take occasional gentle PO
   - NPO for now given elevated lipase
   - Serial abdominal exam
   # Hypertension:
   - Continue Labetalol PO TID and will consider adding Captopril today
   given poor blood pressure control yesterday (although did not receive
   full 800mg TID until midnight)
   - Control pain
   # Respiratory Failure: Respiratory status stable, with reasonable ABGs
   (respiratory alkalosis) - now extubated. ABGs continue to [**Location (un) 988**] PO2
   although pulse ox showing good saturation.
   - Continue albuterol and ipratropium
   - Continue with  vanco, day 13/14
   # [**Last Name (un) **]: Creatinine stable at 1.5, had been steadily/gradually improving.
   Likely new baseline
   - Continue to monitor BUN/creatinine, UOP
   - Dose Vancomycin by trough
   # Skull fracture: Course of cipro/dexamethasone ear drops now complete
   # SAH/SDH: CT unrevealing for worsening or new fractures.
   # EtOH: Now beyond duration during which withdrawal expected. Holding
   benzos or other sedatives. Getting Thiamine/Folate.
    - SW / advice about rehabilitation when acute issues resolved
   # Diabetes: ISS; Glipizide held
 will likely need to tighten sliding
   scale once back on Tube Feeds
   # FEN: NPO for now. Will reassess for TPN vs. reinitiation of Tube
   Feeds today
   # Proph: Pantoprazole, heparin gtt
   # Access: PICC, right radial line
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
 Case Management following for long-term goal of Rehab
   placement; PT also following
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2129-2-6**] 05:33 PM 42 mL/hour
   Peptamen 1.5 (Full) - [**2129-2-7**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 ANEMIA, OTHER
 HYPERGLYCEMIA
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALCOHOL ABUSE
 SUBDURAL HEMORRHAGE (SDH)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])

2129-02-09 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More alert. Pain in L elbow
   24 Hour Events:
 EKG - At [**2129-2-8**] 11:58 AM
 MULTI LUMEN - STOP [**2129-2-8**] 03:58 PM
 PICC LINE - START [**2129-2-8**] 04:11 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-7**] 08:30 PM
   Infusions:
   Heparin Sodium - 2,800 units/hour
   Other ICU medications:
   Labetalol - [**2129-2-8**] 08:00 PM
   Heparin Sodium - [**2129-2-9**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy, Heparin
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: [**3-3**] Mild
   Pain location: elbow
   Flowsheet Data as of  [**2129-2-9**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 108 (88 - 123) bpm
   BP: 144/77(98) {90/58(68) - 181/90(119)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  3,063 mL
                                                                    740 mL
   PO:
             TF:
                                                                  1,169 mL
   IVF:
                                                                  1,014 mL
                                                                    460 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  2,955 mL
                                                                    860 mL
   Urine:
                                                                  2,205 mL
                                                                    860 mL
   NG:
   Stool:
                                                                    750 mL
   Drains:
   Balance:
                                                                    108 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.49/33/75/24/2
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), 2/6 sem
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): self, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   314 K/uL
   157 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   19 mg/dL
   113 mEq/L
   144 mEq/L
   22.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2129-2-8**]  03:13 AM
                             [**2129-2-8**]  05:32 AM
                             [**2129-2-8**]  11:45 AM
                             [**2129-2-8**]  03:39 PM
                             [**2129-2-8**]  03:50 PM
                             [**2129-2-8**]  05:32 PM
                             [**2129-2-8**]  09:18 PM
                             [**2129-2-8**]  09:21 PM
                             [**2129-2-9**]  03:45 AM
                             [**2129-2-9**]  06:11 AM
   WBC
   9.4
   9.0
   8.4
   Hct
   21.2
   24.2
   23.4
   22.1
   Plt
   [**Telephone/Fax (3) 13173**]
   Cr
   1.5
   1.5
   TCO2
   27
   26
   25
   25
   24
   26
   Glucose
   177
   157
   Other labs: PT / PTT / INR:13.8/52.5/1.2, ALT / AST:[**11-14**], Alk Phos / T
   Bili:76/0.6, Amylase / Lipase:68/100, Differential-Neuts:76.0 %,
   Band:0.0 %, Lymph:18.2 %, Mono:4.0 %, Eos:1.7 %, Lactic Acid:1.0
   mmol/L, Albumin:2.2 g/dL, LDH:233 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 ANEMIA, OTHER
 HYPERGLYCEMIA
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALCOHOL ABUSE
 SUBDURAL HEMORRHAGE (SDH)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   He looks better - more alert, following commands but still
   substantially confused.  Clearly c/o L elbow pain with sm effusion on
   exam. Will speak to Rheum about arthrocentesis - suspect pseudogout but
   need to r/o infection.  Increased lipase in the absence of amylase
   elevation, abd pain, nausea. Will hold feeds for a day, review meds,
   and hopefully restart feeds in am.  Starting metoprolol per EP for AF.
   Declining hct is a concern - no obvous source. Will follow q6h,
   transfuse for hct of 21, guaiac stools.
   Time spent 40 min
   Critically ill
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2129-1-28**] 09:00 PM
   PICC Line - [**2129-2-8**] 04:11 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2129-02-10 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2129-2-9**] 05:00 PM
 FEVER - 102.0
F - [**2129-2-9**] 06:00 PM: Urine and blood cultured
   - Tap elbow with 75K WBC with NEG birefringent crystals --> Gout,
   started pred 60mg x3d
   - Ortho following but not active now
   - Rec'd Labetolol 20 mg for hypertension at 0230 and again at 0630
   switched back to Labetalol 800mg TID today from metoprolol
   Allergies:
   Penicillins
   pain;
   Last dose of Antibiotics:
   Vancomycin - [**2129-2-7**] 08:30 PM
   Infusions:
   Heparin Sodium - 3,000 units/hour
   Other ICU medications:
   Heparin Sodium - [**2129-2-10**] 02:00 AM
   Labetalol - [**2129-2-10**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-2-10**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 38.9
C (102
   Tcurrent: 37.1
C (98.7
   HR: 113 (98 - 125) bpm
   BP: 155/88(109) {103/59(72) - 176/103(125)} mmHg
   RR: 20 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107 kg (admission): 113 kg
   Height: 72 Inch
             Total In:
                                                                  1,018 mL
                                                                    288 mL
   PO:
             TF:
   IVF:
                                                                    738 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    300 mL
   Urine:
                                                                  1,545 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -527 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.46/30/77.[**Numeric Identifier 143**]/22/0
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   295 K/uL
   7.4 g/dL
   240 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.4 mEq/L
   21 mg/dL
   112 mEq/L
   145 mEq/L
   23.2 %
   9.3 K/uL
        [image002.jpg]
   Urine Cx X2 NGTD
   Blood cx X4 NGTD
   Cdiff negative
   Joint aspirate culture NGTD
   ECHO
 pericardial effusion is slightly smaller than before
   Catheter tip cx NGTD
                             [**2129-2-8**]  03:39 PM
                             [**2129-2-8**]  03:50 PM
                             [**2129-2-8**]  05:32 PM
                             [**2129-2-8**]  09:18 PM
                             [**2129-2-8**]  09:21 PM
                             [**2129-2-9**]  03:45 AM
                             [**2129-2-9**]  06:11 AM
                             [**2129-2-9**]  05:28 PM
                             [**2129-2-10**]  01:15 AM
                             [**2129-2-10**]  01:22 AM
   WBC
   9.0
   8.4
   8.6
   9.3
   Hct
   24.2
   23.4
   22.1
   21.8
   23.2
   Plt
   381
   314
   302
   295
   Cr
   1.5
   1.7
   1.7
   TCO2
   25
   25
   24
   26
   22
   Glucose
   157
   100
   240
   Other labs: PT / PTT / INR:13.7/54.8/1.2, ALT / AST:[**11-14**], Alk Phos / T
   Bili:76/0.6, Amylase / Lipase:68/100, Differential-Neuts:76.0 %,
   Band:0.0 %, Lymph:18.2 %, Mono:4.0 %, Eos:1.7 %, Lactic Acid:1.0
   mmol/L, Albumin:2.2 g/dL, LDH:233 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
   68M s/p fall with EtOH onboard leading to skull fracture, SAH, SDH.
   Admission c/b intermittent ileus, acute on chronic renal failure,
   respiratory distress, atrial flutter and atrial fib, and altered mental
   status.
   # Altered Mental status: Significantly improved today, conversant.
   Seemed more alert on Monday
 much less interactive yesterday. Would
   open eyes and say
 only. EEG showed slow encephalopathy, no
   seizures. Repeat CT head showed no acute intracranial processes
   (hemorrhage, herniation, ischemia). ABGs showed respiratory alkalosis,
   ? due to CNS injury. Patient does have a tendency to wax and wane.
   - Continue to monitor
   - Work with PT as much as possible
   - Maintain sleep/wake cycle, manage symptoms (pain etc) to minimize ICU
   delirium
   .
   # Gout: Grimacing in pain yesterday due to left arm. Left forearm/elbow
   films unrevealing but aspirate confirmed gout. Lipase 100.
   - Continue Prednisone 60mg for two more days
   - Given lack of localizing symptoms to the abdomen, patient will do a
   swallow trial today and start PO diet if he passes. Otherwise, will
   resume tube feed
   - Pain control with low-dose IV dilaudid PRN
   - Continue bowel regimen in setting of resolving ileus to prevent
   worsening on narcotic pain medications
   .
   # DVT: Right lower extremity
   - Continue heparin gtt with lower goal PTT 60-80 in setting of ICH;
   will start Coumadin today with low INR goal of 2.0
   - Repeat ECHO per Cardiology recommendations given change in
   pericardial effusion quality possibly concerning for bleeding into
   pericardium
   .
   # Hypernatremia: Serum [Na+] 146
 145. Essentially resolved.
   -  Continue with free water PO flushes
   # A Fib/Flutter: Appreciate Cardiology recommendations. Discontinued
   Digoxin, Esmolol gtt off X2 days now. Of note, heart rate improved with
   Tylenol for pain. Loaded with Digoxin, also continues on esmolol gtt.
   Known to be difficult to rate control in past.
   - Continue Labetalol 800mg TID
   - Continue to hold Sotalol in setting of recent INR reversal and risk
   of thromboembolic event with cardioversion on Sotalol
   # Ileus: Good stool output, ileus resolving. Will resume diet if passes
   swallow study today. Otherwise, resume tube feeds per above
   - Serial abdominal exam
   # Hypertension:
   - Continue Labetalol PO TID and will consider adding Lisinopril today
   given poor blood pressure control yesterday (although did not receive
   full 800mg TID until midnight)
   - Control pain from gout
   # Respiratory Failure: Respiratory status stable, with reasonable ABGs
   (respiratory alkalosis) - now extubated. ABGs continue to [**Location (un) 988**] PO2
   although pulse ox showing good saturation.
   - Continue albuterol and ipratropium
   - Continue with  vanco, day 14/14
   # [**Last Name (un) **]: Creatinine stable at 1.5, had been steadily/gradually improving.
   Likely new baseline
   - Continue to monitor BUN/creatinine, UOP
   - Dose Vancomycin by trough
   # Skull fracture: Course of cipro/dexamethasone ear drops now complete
   # SAH/SDH: CT unrevealing for worsening or new fractures.
   # EtOH: Now beyond duration during which withdrawal expected. Holding
   benzos or other sedatives. Getting Thiamine/Folate.
    - SW / advice about rehabilitation when acute issues resolved
   # Diabetes: ISS; Glipizide held
 will likely need to tighten sliding
   scale once back on Tube Feeds
   # FEN: NPO for now. Will reassess for TPN vs. reinitiation of Tube
   Feeds today
   # Proph: Pantoprazole, heparin gtt
   # Access: PICC, right radial line
   # Communication: [**Doctor First Name 753**] and [**First Name8 (NamePattern2) 129**] [**Known lastname 12875**]
   # Code: Full
 Case Management following for long-term goal of Rehab
   placement; PT also following
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 SUBDURAL HEMORRHAGE (SDH)
 .H/O ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2129-2-6**] 05:33 PM 42 mL/hour
   Peptamen 1.5 (Full) - [**2129-2-7**] 12:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-28**] 12:59 PM
   Arterial Line - [**2129-1-28**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 ANEMIA, OTHER
 HYPERGLYCEMIA
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALCOHOL ABUSE
 SUBDURAL HEMORRHAGE (SDH)
 ATRIAL FIBRILLATION (AFIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ARTHRITIS, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-1-28**] 09:00 PM
   PICC Line - [**2129-2-8**] 04:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: